2168-11-26 08:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2168-11-25**] 06:32 PM
 PICC LINE - START [**2168-11-25**] 08:05 PM
 EKG - At [**2168-11-25**] 09:15 PM
 ARTERIAL LINE - START [**2168-11-25**] 11:00 PM
   Anxious overnight- given ativan with minimal effect.   Attempted to
   wean to FIO2 50% with poor response.
   No acute changes.
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2168-11-26**] 03:19 AM
   Imipenem/Cilastatin - [**2168-11-26**] 05:00 AM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2168-11-25**] 11:40 PM
   Lorazepam (Ativan) - [**2168-11-26**] 07:00 AM
   Pantoprazole (Protonix) - [**2168-11-26**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2168-11-26**] 08:15 AM
   Review of systems is unchanged from admission except as noted below
   Review of systems:  sleepy but arousable.  Denies pain or SOB
   Flowsheet Data as of  [**2168-11-26**] 08:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 73 (71 - 89) bpm
   BP: 125/48(70) {105/41(61) - 135/67(88)} mmHg
   RR: 28 (24 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     41 mL
                                                                    842 mL
   PO:
             TF:
   IVF:
                                                                     41 mL
                                                                    812 mL
   Blood products:
   Total out:
                                                                    625 mL
                                                                    414 mL
   Urine:
                                                                    625 mL
                                                                    414 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -584 mL
                                                                    428 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 401 (401 - 401) mL
   Vt (Spontaneous): 446 (357 - 520) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 32
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.46/43/98.[**Numeric Identifier 176**]/29/5
   Ve: 13.5 L/min
   PaO2 / FiO2: 163
   Physical Examination
   GEN: elderly woman, fatigued appearing, increased work of breathing
   HEENT: EOMI, PERRL, sclera anicteric, MMM, no cervical lymphadenopathy
   COR: RRR, no M/G/R, normal S1 S2,
   PULM: CTA B; no W/R/R
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: 2+ distal pulses +2, No C/C/E, no palpable cords
   NEURO: alert, appropriate responses to questioning. CN II
 XII grossly
   intact. Moves all 4 extremities.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   495 K/uL
   8.0 g/dL
   92 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.1 mEq/L
   24 mg/dL
   106 mEq/L
   140 mEq/L
   24.1 %
   14.2 K/uL
        [image002.jpg]
                            [**2168-11-25**]  09:47 PM
                            [**2168-11-25**]  10:12 PM
                            [**2168-11-26**]  12:01 AM
                            [**2168-11-26**]  03:54 AM
                            [**2168-11-26**]  05:27 AM
                            [**2168-11-26**]  06:32 AM
                            [**2168-11-26**]  08:40 AM
   WBC
   15.0
   14.2
   Hct
   26.0
   24.1
   Plt
   520
   495
   Cr
   0.7
   0.7
   TCO2
   34
   34
   33
   31
   32
   Glucose
   128
   92
   Other labs: PT / PTT / INR:12.5/32.3/1.1, Differential-Neuts:89.2 %,
   Lymph:4.9 %, Mono:5.5 %, Eos:0.3 %, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.2 mg/dL
   MICRO: 8pm [**11-25**]
   Gram stain with G+ Cocci in pairs
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Assesment/Plan: This is an 80 year-old woman with a history of COPD,
   who presents as transfer from OSH following possible pneumonia and
   failure to extubate.
   .
   # Respiratory Failure/Pneumonia:  Cause is unclear.  History of COPD vs
   ? Intersitial lung disease.  CXR yesterday minimally helpful but ETT
   appears a bit deep.  On vanco, imepenem for possible HA pneumonia
   (sputum with G+ cocci), prednisone for pneumonitis or steroid
   responsive illness.  No history of CT to evaluate pulmonary anatomy
   more clearly.  Pt appears moderately off sync with vent; currently
   receiving fentanyl for comfort
   - CTA of chest
   - Pull ETT 2cm; switch to Assist control
   - f/u sputum cultures.
   - obtain further [**Hospital3 **] records.
   - Trend WBC count fever curve.
   # Hypotension:  Pt currently stable on 0.3mg neosynephrine. But unable
   to be weaned.  [**Month (only) 51**] be sedation related per outside report.  Good UOP.
   - wean neo; goal MAP >60.
   - monitor UOP
   # FEN:  On tube feeds at OSH.
   - nutrition consult in AM for tube feeds
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: lipitor currently held due to OG tube.
   # Chronic Kidney Disease (Cr 1.4): improved from baseline.
   - continue to monitor; adjust medications as needed for renal
   insufficiency.
   # Osteoporosis; hx of compression fractures:  No acute issues
   # GERD: PPI
   # PPx: sq heparin, pneumoboots, VAP prophylaxis
   .
   # Code:  FULL
   .
   # Dispo:  ICU
   .
   # Comm:  Daughter ([**First Name5 (NamePattern1) 619**] [**Name (NI) 4269**]).  HCP's are daughter'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 619**]
   ([**Telephone/Fax (1) 4270**]) and [**Doctor Last Name 376**] ([**Telephone/Fax (1) 4271**]).
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer:  PPI
   Communication:  daughter
   [**Name (NI) 36**] status: FULL CODE
   Disposition:  ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   On this day I examined the patient and was present for the key portion
   of the services provided.  I have reviewed the note of Dr [**Last Name (STitle) 4021**] and I
   agree with the findings and plan of care.  The patient is transferred
   from [**Hospital3 2882**] for continued management of resp failure.  We still
   need to get further information from [**Hospital1 **] physicians as the degree of
COPD
 is not clear.  Right now her imaging suggests diffuse
   interstitial disease.  This, plus the hx of an echo there with PASP in
   the 70
s would suggest she has severe chronic ILD with pulm htn.  Yet
   the story also suggests the patient was very active till recently!  For
   today, we will pull back her ETT which has migrated into the right
   mainstem, and we will continue high dose steroids, likely high enough
   to treat an exacerbation of IPF.  We will continue bronchodilators,
   pending review of her LC pfts. We will also ask her family to get us a
   CD of her LC imaging.  She looks uncomfortable on PSV and we will try
   to change her to A/C and sedate her more.
   Time spent in the care of this critically ill woman: 50min
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2168-11-26**] 21:16 ------

2168-11-27 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2168-11-26**] 08:00 PM
 EKG - At [**2168-11-27**] 12:00 AM
   - Transferred from OSH for failure to wean from Vent. and previous
   medical asessment that pt should be made CMO (family seeking second
   opinion); ET tube 2 wks
   - A line placed [**11-25**]; PICC left arm
   - Sputum [**11-25**] 2+ GPCs (good sample)
   - Continued Vanco/Imipenem (started [**11-25**])
   - Continued steroid taper from OSH (prednisone 50)
   - Concern per nursing for inc.d work of breathing on AM rnds > started
   fentanyl gtt
   - Et tube low - pulled 2 cm
   - Started solumedrol 80 mg po TID
   - Stopped Imipenem, but Continued vancomycin given no signs of pna and
   only g positives in sputum
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2168-11-26**] 03:19 AM
   Imipenem/Cilastatin - [**2168-11-26**] 05:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Phenylephrine - 0.3 mcg/Kg/[**Year (4 digits) 83**]
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-11-26**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2168-11-26**] 07:15 PM
   Other medications:
   Changes to medical and family history: No changes to medical and family
   history
   Review of systems is unchanged from admission except as noted below
   Review of systems: No changes to review of systems from admission
   Flowsheet Data as of  [**2168-11-27**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.6
C (96.1
   HR: 48 (47 - 95) bpm
   BP: 109/47(66) {106/41(60) - 136/58(83)} mmHg
   RR: 24 (16 - 30) insp/[**Year (4 digits) 83**]
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
    CO/CI (Fick): (9.5 L/[**Year (4 digits) 83**]) / (5.3 L/[**Year (4 digits) 83**]/m2)
   Mixed Venous O2% Sat: 73 - 73
   Total In:
                                                                  3,281 mL
                                                                    159 mL
   PO:
   TF:
                                                                     21 mL
   IVF:
                                                                  3,140 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                  1,064 mL
                                                                    295 mL
   Urine:
                                                                  1,064 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,217 mL
                                                                   -136 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 401 (401 - 401) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   Compliance: 22.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/49/109/30/6
   Ve: 9.7 L/[**Year (4 digits) 83**]
   PaO2 / FiO2: 182
   Physical Examination
   GEN: elderly woman, fatigued appearing, increased work of breathing
   HEENT: EOMI, PERRL, sclera anicteric, MMM, no cervical lymphadenopathy
   COR: RRR, no M/G/R, normal S1 S2,
   PULM: CTA B; no W/R/R
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: 2+ distal pulses +2, No C/C/E, no palpable cords
   NEURO: alert, appropriate responses to questioning. CN II
 XII grossly
   intact. Moves all 4 extremities.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   477 K/uL
   8.0 g/dL
   147 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   22 mg/dL
   101 mEq/L
   137 mEq/L
   24.2 %
   7.7 K/uL
        [image002.jpg]
                            [**2168-11-26**]  03:54 AM
                            [**2168-11-26**]  05:27 AM
                            [**2168-11-26**]  06:32 AM
                            [**2168-11-26**]  08:40 AM
                            [**2168-11-26**]  01:36 PM
                            [**2168-11-26**]  03:49 PM
                            [**2168-11-26**]  08:15 PM
                            [**2168-11-27**]  12:01 AM
                            [**2168-11-27**]  05:44 AM
                            [**2168-11-27**]  06:16 AM
   WBC
   14.2
   7.7
   Hct
   24.1
   24.2
   Plt
   495
   477
   Cr
   0.7
   0.6
   0.6
   TCO2
   33
   31
   32
   32
   30
   35
   33
   Glucose
   92
   109
   147
   Other labs: PT / PTT / INR:12.5/32.3/1.1, Differential-Neuts:89.2 %,
   Lymph:4.9 %, Mono:5.5 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Ca++:7.9
   mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Imaging: - Chest CT:
   1. No pulmonary embolus.
   2. Diffuse, severe interstitial lung disease. No evidence of pneumonia
   or
   pulmonary edema.
   3. Multiple compression deformities in the mid thoracic spine,
   chronicity
   unknown.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Assesment/Plan: This is an 80 year-old woman with a history of COPD,
   who presents as transfer from OSH following possible pneumonia and
   failure to extubate.
   .
   # Respiratory Failure/Pneumonia:  Cause is unclear.  History of COPD vs
   ? Intersitial lung disease.  On vanco, imepenem for possible HA
   pneumonia (sputum with G+ cocci), prednisone for pneumonitis or steroid
   responsive illness.  No history of CT to evaluate pulmonary anatomy
   more clearly. CT chest shows diffuse severe interstitial lung disease.
   - CTA of chest
   - f/u sputum cultures.
   - obtain further [**Hospital3 **] records.
   - Trend WBC count fever curve.
   # Hypotension:  Pt currently stable on 0.3mg Phenylephrine.  Good UOP.
   - wean neo; goal MAP >60.
   - monitor UOP
   # FEN:  On tube feeds at OSH.
   - nutrition consult in AM for tube feeds
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: lipitor currently held due to OG tube.
   # Chronic Kidney Disease (Cr 1.4): improved from baseline.
   - continue to monitor; adjust medications as needed for renal
   insufficiency.
   # Osteoporosis; hx of compression fractures:  No acute issues
   # GERD: PPI
   # PPx: sq heparin, pneumoboots, VAP prophylaxis
   .
   # Code:  FULL
   .
   # Dispo:  ICU
   .
   # Comm:  Daughter ([**First Name5 (NamePattern1) 619**] [**Name (NI) 4269**]).  HCP's are daughter'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 619**]
   ([**Telephone/Fax (1) 4270**]) and [**Doctor Last Name 376**] ([**Telephone/Fax (1) 4271**]).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   On this day I examined the patient and was present for the key portion
   of the services provided.  I have reviewed the note of Dr [**Last Name (STitle) 4321**] above
   and agree with the findings and plan of care.
   The patient is much more comfortable today on A/C ventilation and with
   more sedation.  Her chest CT shows chiefly diffuse interstitial lung
   disease, age indeterminate.  I assume, with her pulm htn on echo that
   most of this is old, but need [**Hospital1 **] imaging to better assess this.
   Meanwhile we will stop Rx for HCAP and continue high dose prednisone in
   case any of this ILD is reversible.  Her hypotension will be Rx
d with
   decrease in PEEP, mild reduction in sedation, and a IVF bolus.
   Time spent in the care of this critically ill patient: 50 [**First Name8 (NamePattern2) 83**]
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2168-11-27**] 12:56 ------

2168-11-28 08:04:00 Physician Resident Progress Note
Chief Complaint:  Failure to extubate
   24 Hour Events:
   -Plan to do 5 days of Solumderol 80- TID, then repeat CT, then re-dose
   steroids.
   -Stopped Vancomycin
   -Sputum gram stain wtih GPC in pairs, 2+
   -Bolused 500cc's NS at mindnight for low urine output..
   O2 sats in the 80
s this AM
   - hematocrit low this AM (21; given 1 uRBC)
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2168-11-26**] 05:00 AM
   Vancomycin - [**2168-11-27**] 08:38 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-11-27**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2168-11-28**] 12:07 AM
   Review of systems is unchanged from admission except as noted below
   Review of systems:  denies pain, shortness of breath
   Flowsheet Data as of  [**2168-11-28**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.4
   HR: 80 (47 - 83) bpm
   BP: 130/68(66) {90/40(55) - 130/68(81)} mmHg
   RR: 20 (19 - 25) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,967 mL
                                                                  2,245 mL
   PO:
             TF:
   IVF:
                                                                  2,917 mL
                                                                  2,245 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                    245 mL
   Urine:
                                                                    655 mL
                                                                    245 mL
   NG:
                                                                     70 mL
   Stool:
   Drains:
   Balance:
                                                                  2,242 mL
                                                                  2,000 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 401 (401 - 401) mL  (600)
   Vt (Spontaneous): 443 (443 - 443) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 41
   PIP: 14 cmH2O
   Plateau: 19 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 89%
                                     pH
                                    7.38
                                    pCO2
                                     47
                                     pO2
                                     63
                                    HCO3
                                     29
                                   BaseXS
                                      1
   Type:Art; Intubated; FiO2%:50; Rate:24/6; TV:400; PEEP:5;
   Mode:Assist/Control;
   Physical Examination
   GEN: elderly woman, sedated but arousable, NAD
   HEENT: EOMI, PERRL, sclera anicteric, MMM, no cervical lymphadenopathy
   COR: RRR, no M/G/R, normal S1 S2,
   PULM: bibasilar rales , otherwise clear.
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: 2+ distal pulses hands cool.  no C/C/E
   NEURO: awakens to verbal stimuli. Responds to commands
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   360 K/uL
   6.9 g/dL
   123 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.2 mEq/L
   26 mg/dL
   113 mEq/L
   144 mEq/L
   21.4 %
   3.6 K/uL
        [image002.jpg]
                            [**2168-11-26**]  06:32 AM
                            [**2168-11-26**]  08:40 AM
                            [**2168-11-26**]  01:36 PM
                            [**2168-11-26**]  03:49 PM
                            [**2168-11-26**]  08:15 PM
                            [**2168-11-27**]  12:01 AM
                            [**2168-11-27**]  05:44 AM
                            [**2168-11-27**]  06:16 AM
                            [**2168-11-27**]  05:17 PM
                            [**2168-11-28**]  04:49 AM
   WBC
   14.2
   7.7
   3.6
   Hct
   24.1
   24.2
   21.4
   Plt
   495
   477
   360
   Cr
   0.7
   0.6
   0.6
   0.5
   TCO2
   32
   32
   30
   35
   33
   32
   Glucose
   92
   109
   147
   123
   Other labs: PT / PTT / INR:12.5/32.3/1.1, Differential-Neuts:89.2 %,
   Lymph:4.9 %, Mono:5.5 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.6
   g/dL, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Assessment/Plan: This is an 80 year-old woman with a history of COPD,
   who presents as transfer from OSH following possible pneumonia and
   failure to extubate.
   .
   # Respiratory Failure/Pneumonia:  Cause is unclear.  History of COPD vs
   ? Interstitial lung disease.  Currently prednisone for pneumonitis or
   steroid responsive illness.  No history of CT to evaluate pulmonary
   anatomy more clearly. CT chest shows diffuse severe interstitial lung
   disease.
   - continue steroids
   - bronchoscopy today
   - f/u sputum cultures.
   - Trend WBC count/ assess for fever
   # Decreased Hematocrit:  Pt hemodynamically sable; Hct has been
   trending down from admission to [**Hospital1 **] and without evidence of active
   bleeding, this is likely from phlebotomy.
   -          transfuse 1unit today
   -          pm Hct, goal  Hct>25
   # Hypotension:  off Phenylephrine.  Given 2L this AM for poor UOP; has
   increased minimally;
   - monitor UOP- fluids for goal UOP >50cc/hr
   # FEN:  tube feeds held for high residual
   -          tube feeds as tolerated
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: lipitor currently held due to OG tube.
   # Chronic Kidney Disease (Cr 1.4): improved from baseline.
   - continue to monitor; adjust medications as needed for renal
   insufficiency.
   # Osteoporosis; hx of compression fractures:  No acute issues
   # GERD: PPI
   .
   # Comm:  Daughter ([**First Name5 (NamePattern1) 619**] [**Name (NI) 4269**]).  HCP's are daughter'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 619**]
   ([**Telephone/Fax (1) 4270**]) and [**Doctor Last Name 376**] ([**Telephone/Fax (1) 4271**]).
   ICU Care
   Nutrition:  Tube fees as tolerated
   Glycemic Control:  ss Insulin
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: sq Heparin
   Stress ulcer:  PPI
   VAP:  ppx
   Code status: Full code
   Disposition:  ICU

2168-11-28 11:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pneumonia, COPD, interstitial
   lung disease, pulmonary hypertension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient started on high dose steroids to treat possible worsening of
   ILD.
   Patient transfused PRBCs  for Hct of 21.
   Continues on ventilator on PSV with PEEP 5 with acceptable O2 sat on
   FIO2=0.6
   WBC has dropped significantly.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Intubated.
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2168-11-26**] 05:00 AM
   Vancomycin - [**2168-11-27**] 08:38 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-11-28**] 08:09 AM
   Pantoprazole (Protonix) - [**2168-11-28**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-28**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.6
   HR: 89 (48 - 89) bpm
   BP: 135/49(75) {90/40(55) - 135/68(81)} mmHg
   RR: 24 (19 - 30) insp/min
   SpO2: 81%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,967 mL
                                                                  2,382 mL
   PO:
             TF:
   IVF:
                                                                  2,917 mL
                                                                  2,332 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                    340 mL
   Urine:
                                                                    655 mL
                                                                    340 mL
   NG:
                                                                     70 mL
   Stool:
   Drains:
   Balance:
                                                                  2,242 mL
                                                                  2,042 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 401 (401 - 401) mL
   Vt (Spontaneous): 660 (443 - 660) mL
   PS : 12 cmH2O
   RR (Set): 24
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 41
   PIP: 14 cmH2O
   Plateau: 19 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 81%
   ABG: 7.40/43/63/28/0
   Ve: 10.9 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, right pupil irregular
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), II/VI systolic murmur throughout the precordium
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Unable to assess on ventilator, Movement:
   Purposeful, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   360 K/uL
   123 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.2 mEq/L
   26 mg/dL
   113 mEq/L
   144 mEq/L
   21.4 %
   3.6 K/uL
        [image002.jpg]
                            [**2168-11-26**]  01:36 PM
                            [**2168-11-26**]  03:49 PM
                            [**2168-11-26**]  08:15 PM
                            [**2168-11-27**]  12:01 AM
                            [**2168-11-27**]  05:44 AM
                            [**2168-11-27**]  06:16 AM
                            [**2168-11-27**]  05:17 PM
                            [**2168-11-28**]  04:49 AM
                            [**2168-11-28**]  08:37 AM
                            [**2168-11-28**]  10:27 AM
   WBC
   7.7
   3.6
   Hct
   24.2
   21.4
   Plt
   477
   360
   Cr
   0.6
   0.6
   0.5
   TCO2
   32
   30
   35
   33
   32
   29
   28
   Glucose
   109
   147
   123
   Other labs: PT / PTT / INR:12.5/32.3/1.1, Differential-Neuts:89.2 %,
   Lymph:4.9 %, Mono:5.5 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.6
   g/dL, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Imaging: CT scan: diffuse interstitial changes with fibrosis;
   supermposed ground glass opacities diffusely. Scattered areas of
   emphysema. No PE
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   PULMONARY HYPERTENSION
   INTERSTITIAL LUNG DISEASE
   COPD
   ANEMIA
   We are continuing to have difficulty with oxygenation. Will increase
   PEEP to 10 to see if we can reduce FIO2 below 0.6. CT scan and report
   of echo suggests significant chronic lung disease leading to pulmonary
   hypertension. CT shows honeycombing consistent with chronic pulmonary
   fibrosis. There may be a superimposed alveolitis given the ground-glass
   appearance. I am concerned this represents an acute exacerbation of ILD
   or [**Last Name (un) 4350**]-[**Doctor First Name **] syndrome. Patient started on high dose steroids.
   Antibiotics continue. Will consider bronch to assess for PCP and
   resistant bacteria.
   Hct down to 21. Patient being transfused. No evidence of active
   bleeding.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent:  30 mins
   Patient is critically ill

2168-11-29 07:02:00 Physician Resident Progress Note
Chief Complaint: failure to wean from ventilator
   24 Hour Events:
 BRONCHOSCOPY - At [**2168-11-28**] 01:44 PM
   Had a bronchoscopy which was relatively unremarkable.
   BAL without organisms.
   Did well on pressure support for over 14 hours, then appeared
   fatigued.  Switched to Assist control with poor blood gas
   (7.42/44/52/30)
   Switched back to pressure support
   pH 7.41
   pCO2 46
   pO2 69
   HCO3 30
   Vent:Spontaneous; FiO2%:70; PEEP:16; Temp:36.4
   Recieved 1 unit of blood for Hct of 21; with post-HCT of 26.9.
   -Continuing Solumederol 80mg TID until repeat CT demonstrates
   improvement enabling taper.
   -Cultures here negative to date.
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2168-11-27**] 08:38 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-11-28**] 08:10 AM
   Fentanyl - [**2168-11-28**] 01:30 PM
   Furosemide (Lasix) - [**2168-11-28**] 10:15 PM
   Heparin Sodium (Prophylaxis) - [**2168-11-29**] 12:28 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   nonverbal
   Flowsheet Data as of  [**2168-11-29**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.5
   HR: 72 (70 - 93) bpm
   BP: 128/60(83) {87/49(69) - 146/108(111)} mmHg
   RR: 19 (14 - 31) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,068 mL
                                                                    239 mL
   PO:
             TF:
                                                                     60 mL
                                                                     87 mL
   IVF:
                                                                  3,608 mL
                                                                    151 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,110 mL
                                                                    940 mL
   Urine:
                                                                  1,110 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,958 mL
                                                                   -701 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 401) mL
   Vt (Spontaneous): 618 (563 - 670) mL
   PS : 16 cmH2O
   RR (Set): 24
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 18 cmH2O
   SpO2: 91%
   ABG: 7.41/46/69/29/3
   Ve: 10.3 L/min
   PaO2 / FiO2: 99
   Physical Examination
   GEN: elderly woman, sedated but arousable, NAD
   HEENT: EOMI, PERRL, sclera anicteric, MMM, no cervical lymphadenopathy
   COR: RRR, no M/G/R, normal S1 S2,
   PULM: bibasilar rales , otherwise clear.
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: 2+ distal pulses hands cool.  no C/C/E
   NEURO: awakens to verbal stimuli. Responds to commands
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   373 K/uL
   9.3 g/dL
   129 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.8 mEq/L
   30 mg/dL
   109 mEq/L
   143 mEq/L
   27.4 %
   8.3 K/uL
        [image002.jpg]
                            [**2168-11-27**]  05:17 PM
                            [**2168-11-28**]  04:49 AM
                            [**2168-11-28**]  08:37 AM
                            [**2168-11-28**]  10:27 AM
                            [**2168-11-28**]  12:40 PM
                            [**2168-11-28**]  05:59 PM
                            [**2168-11-28**]  07:56 PM
                            [**2168-11-29**]  03:53 AM
                            [**2168-11-29**]  04:12 AM
                            [**2168-11-29**]  05:42 AM
   WBC
   3.6
   8.3
   Hct
   21.4
   26.9
   27.4
   Plt
   360
   373
   Cr
   0.5
   0.6
   TCO2
   32
   29
   28
   28
   28
   30
   30
   Glucose
   123
   129
   Other labs: PT / PTT / INR:13.5/27.9/1.2, Differential-Neuts:88.4 %,
   Band:0.0 %, Lymph:4.8 %, Mono:6.3 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Assessment/Plan: This is an 80 year-old woman with a history of COPD,
   who presents as transfer from OSH following possible pneumonia and
   failure to extubate.
   .
   # Respiratory Failure/Pneumonia:  Cause is unclear.  History of COPD vs
   ? Interstitial lung disease.  Currently prednisone for pneumonitis or
   steroid responsive illness. Off antibiotics since [**11-27**] given lack of
   evidnce for infection.  No history of CT to evaluate pulmonary anatomy
   more clearly. CT chest shows diffuse severe interstitial lung disease.
   TTE with pa htn consistent with chronic lung disease. Although BNP
   elevated, CXR more consistent with ILD than CHF. Bronchoscopy performed
   [**11-28**] (prelim data shows no organisms).  Influenza and respiratory
   virus negative. Now requiring higher o2 and peep to maintain
   oxygenation.
   - Plan for family meeting on Thrs. Afternoon to address goals of care
   - repeat abg and attempt to wean 02 nontoxic levels
   - continue steroids until family meeting
   - f/u bronch results
   - f/u sputum cultures.
   - Goal I/O
 - 500 cc to 1 L today in case pulmonary edema playing a
   role in respiratory status.
   - Trend WBC count/ assess for fever
   # Anemia:  Hct 21.4 yesterday and transfused 1 u prbc and hct increased
   to 26.9
   - goal hct 25
   # Hypotension:  off Phenylephrine.
   - monitor UOP- fluids for goal UOP >50cc/hr
   # FEN:  tube feeds held for high residual
   -          tube feeds as tolerated
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: lipitor currently held due to OG tube.
   # Chronic Kidney Disease (Cr 1.4): improved from baseline.
   - continue to monitor; adjust medications as needed for renal
   insufficiency.
   # Osteoporosis; hx of compression fractures:  No acute issues
   # GERD: PPI
   .
   # Comm:  Daughter ([**First Name5 (NamePattern1) 619**] [**Name (NI) 4269**]).  HCP's are daughter'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 619**]
   ([**Telephone/Fax (1) 4270**]) and [**Doctor Last Name 376**] ([**Telephone/Fax (1) 4271**]).
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2168-11-28**] 06:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-11-29 12:51:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, ILD, pneumonia, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient placed back on volume ventilation overnight. Oxygenation
   remains marginal.
   24 Hour Events:
 BRONCHOSCOPY - At [**2168-11-28**] 01:44 PM
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: intubated
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2168-11-27**] 08:38 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2168-11-28**] 01:30 PM
   Furosemide (Lasix) - [**2168-11-28**] 10:15 PM
   Heparin Sodium (Prophylaxis) - [**2168-11-29**] 12:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-29**] 12:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.4
   HR: 65 (65 - 93) bpm
   BP: 126/117(122) {87/50(69) - 146/117(122)} mmHg
   RR: 16 (14 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,068 mL
                                                                    471 mL
   PO:
             TF:
                                                                     60 mL
                                                                    197 mL
   IVF:
                                                                  3,608 mL
                                                                    274 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,110 mL
                                                                  1,128 mL
   Urine:
                                                                  1,110 mL
                                                                  1,128 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,958 mL
                                                                   -657 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 601 (563 - 670) mL
   PS : 16 cmH2O
   RR (Set): 24
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 27 cmH2O
   SpO2: 94%
   ABG: 7.41/46/69/29/3
   Ve: 11.5 L/min
   PaO2 / FiO2: 99
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : scattered rales anterior and
   lateral, No(t) Bronchial: , Wheezes : prolonged expiratory phase),
   Recruiting expiratory muscles
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): Not able to assess on vent, Movement:
   Purposeful, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   373 K/uL
   129 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.8 mEq/L
   30 mg/dL
   109 mEq/L
   143 mEq/L
   27.4 %
   8.3 K/uL
        [image002.jpg]
                            [**2168-11-27**]  05:17 PM
                            [**2168-11-28**]  04:49 AM
                            [**2168-11-28**]  08:37 AM
                            [**2168-11-28**]  10:27 AM
                            [**2168-11-28**]  12:40 PM
                            [**2168-11-28**]  05:59 PM
                            [**2168-11-28**]  07:56 PM
                            [**2168-11-29**]  03:53 AM
                            [**2168-11-29**]  04:12 AM
                            [**2168-11-29**]  05:42 AM
   WBC
   3.6
   8.3
   Hct
   21.4
   26.9
   27.4
   Plt
   360
   373
   Cr
   0.5
   0.6
   TCO2
   32
   29
   28
   28
   28
   30
   30
   Glucose
   123
   129
   Other labs: PT / PTT / INR:13.5/27.9/1.2, Differential-Neuts:88.4 %,
   Band:0.0 %, Lymph:4.8 %, Mono:6.3 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: BNP 1286.
   Imaging: CXR: diffuse increase in interstitial markings. Possible small
   effusion. Heart size normal.
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   ANEMIA
   PULMONARY HYPERTENSION
   Patient has not shown any improvement in the past 24 hours. Continues
   on high dose steroids. Patient was on FIO2=0.7 this AM. We increased
   the PEEP to 12 and reduced the FIO2 to 0.6. Patient is using expiratory
   accessory muscles. This did not seem to be related to PEEP; did not
   change when we brought PEEP down to 5.  Likely represents some
   increased airway resistance due to COPD. BNP is up; may represent
   stretch of RV with pulmonary hypertension. Will try to diurese today,
   however, on chance that some of what we are seeing on CXR represents
   fluid.
   Continue with antibiotics for possible pneumonia.
   Hct is up. No need for transfusion now.
   ICU Care
   Nutrition: TUBE
   Nutren Pulmonary (Full) - [**2168-11-28**] 06:00 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2168-11-30 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - BAL - GS negative, cx positive for resp. flora,
   - legionella negative, negative pcp, [**Name10 (NameIs) **] fungus, afp negative
   - restarted TFs
   Given 10mg lasix with mild increase in UOP.
   Vent settings adjusted and switched to PSV+; last ABG 7.43/50/80/32/7
   on fio2 0.6
   17 beat run Vtach --->>> 16:51 electrolytes wnl, no further events.
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2168-11-27**] 08:38 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2168-11-29**] 11:57 PM
   Heparin Sodium (Prophylaxis) - [**2168-11-30**] 12:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  intubated, sedated, but arousable, denies pain
   Flowsheet Data as of  [**2168-11-30**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 67 (65 - 87) bpm
   BP: 141/60(89) {106/55(76) - 150/117(122)} mmHg
   RR: 13 (13 - 29) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    977 mL
                                                                    458 mL
   PO:
             TF:
                                                                    443 mL
                                                                    293 mL
   IVF:
                                                                    534 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  1,473 mL
                                                                    700 mL
   Urine:
                                                                  1,473 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -496 mL
                                                                   -242 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   Vt (Set): 401 (401 - 401) mL
   Vt (Spontaneous): 632 (601 - 670) mL
   FiO2: 50%
   PS : 16 cmH2O
   PEEP: 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 1
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 90%
   ABG: 7.43/50/80/32/7
   Ve: 10.2 L/min
   PaO2 / FiO2: 160
   Physical Examination
   GEN: elderly woman, sedated but arousable, NAD
   HEENT: EOMI, PERRL, sclera anicteric, MMM, no cervical lymphadenopathy
   COR: RRR, no M/G/R, normal S1 S2,
   PULM: bibasilar rales , otherwise clear.
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: 2+ distal pulses hands cool.  no C/C/E
   NEURO: awakens to verbal stimuli. Responds to commands
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   370 K/uL
   9.1 g/dL
   131 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.8 mEq/L
   35 mg/dL
   107 mEq/L
   142 mEq/L
   26.7 %
   9.3 K/uL
        [image002.jpg]
                            [**2168-11-28**]  05:59 PM
                            [**2168-11-28**]  07:56 PM
                            [**2168-11-29**]  03:53 AM
                            [**2168-11-29**]  04:12 AM
                            [**2168-11-29**]  05:42 AM
                            [**2168-11-29**]  06:34 PM
                            [**2168-11-29**]  08:50 PM
                            [**2168-11-30**]  12:31 AM
                            [**2168-11-30**]  04:29 AM
                            [**2168-11-30**]  05:06 AM
   WBC
   8.3
   9.3
   Hct
   26.9
   27.4
   26.7
   Plt
   373
   370
   Cr
   0.6
   0.7
   TCO2
   28
   30
   30
   33
   29
   31
   34
   Glucose
   129
   131
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Assessment/Plan: This is an 80 year-old woman with a history of COPD,
   who presents as transfer from OSH following possible pneumonia and
   failure to extubate.
   .
   # Respiratory Failure/Pneumonia:  CT with findings of interstitial
   disease.  Initiated steroid therapy on [**11-27**]. Off antibiotics since
   [**11-27**] given lack of evidence for infection.  Switched to PCV+ to help
   minimize both volume and pressure trauma.  Appears to be tolerated
   current settings well, although has been unable to achieve adequate
   PaO2 with FIO2 <60.
   - continue to attempt daily weans.
   - attempt to wean sedation as well
   - Plan for family meeting on Thrs. Afternoon to address goals of care
   - continue steroids until family meeting
   # Anemia:  Hct 21.4 yesterday and transfused 1 u prbc and hct increased
   to 26.9
   - goal hct 25
   # Hypotension:  off pressors with good BP control
   - monitor UOP- fluids for goal UOP >50cc/hr
   # FEN:  tube feeds as tolerated
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: lipitor currently held due to OG tube.
   # Chronic Kidney Disease (Cr 1.4): improved from baseline.
   # Osteoporosis; hx of compression fractures:  No acute issues
   # GERD: PPI
   .
   # Comm:  Daughter ([**First Name5 (NamePattern1) 619**] [**Name (NI) 4269**]).  HCP's are daughter'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 619**]
   ([**Telephone/Fax (1) 4270**]) and [**Doctor Last Name 376**] ([**Telephone/Fax (1) 4271**]).
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2168-11-29**] 11:55 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:  PPI
   VAP:  VAP care
   Code status: Full code
   Disposition: ICU

2168-11-30 11:41:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, ILD, pneumonia, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Fluid balance negative by 500 ml yesterday with lasix.
   Vent switched to pressure control ventilation with acceptable ABG.
   Oxygenation a bit better with PEEP 12 - now on 50% oxygen.
   BAL cultures non revealing.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2168-11-29**] 11:57 PM
   Heparin Sodium (Prophylaxis) - [**2168-11-30**] 08:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-30**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 79 (67 - 87) bpm
   BP: 127/68(90) {106/55(76) - 150/92(114)} mmHg
   RR: 30 (13 - 30) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    977 mL
                                                                    719 mL
   PO:
             TF:
                                                                    443 mL
                                                                    466 mL
   IVF:
                                                                    534 mL
                                                                    252 mL
   Blood products:
   Total out:
                                                                  1,473 mL
                                                                    830 mL
   Urine:
                                                                  1,473 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -496 mL
                                                                   -111 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+/PSV
   Vt (Set): 401 (401 - 401) mL
   Vt (Spontaneous): 632 (601 - 670) mL
   PS : 13 cmH2O
   RR (Set): 18
   RR (Spontaneous): 8
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 89%
   ABG: 7.43/50/80.[**Numeric Identifier 176**]/32/7
   Ve: 10.1 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Mild to moderate
   use of accessory muscles
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II-III/VI systolic murmur heard best at base
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Crackles : bibasilar, left greater than right, No(t) Bronchial:
   , Wheezes : Prolonged expiratory phase, No(t) Diminished: , No(t)
   Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   370 K/uL
   131 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.8 mEq/L
   35 mg/dL
   107 mEq/L
   142 mEq/L
   26.7 %
   9.3 K/uL
        [image002.jpg]
                            [**2168-11-28**]  05:59 PM
                            [**2168-11-28**]  07:56 PM
                            [**2168-11-29**]  03:53 AM
                            [**2168-11-29**]  04:12 AM
                            [**2168-11-29**]  05:42 AM
                            [**2168-11-29**]  06:34 PM
                            [**2168-11-29**]  08:50 PM
                            [**2168-11-30**]  12:31 AM
                            [**2168-11-30**]  04:29 AM
                            [**2168-11-30**]  05:06 AM
   WBC
   8.3
   9.3
   Hct
   26.9
   27.4
   26.7
   Plt
   373
   370
   Cr
   0.6
   0.7
   TCO2
   28
   30
   30
   33
   29
   31
   34
   Glucose
   129
   131
   Other labs: PT / PTT / INR:13.5/29.2/1.1, Differential-Neuts:88.4 %,
   Band:0.0 %, Lymph:4.8 %, Mono:6.3 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   ANEMIA
   Oxygenation a bit better with diuresis and higher PEEP. CXR also with
   somewhat less alveolar opacities. Will try to achieve 0.5-1.0 liter
   negative fluid balance today. If oxygenation improves, will try to
   reduce PEEP from 12 to 10.
   Hct stable. No need for transfusion now.
   Continue antibiotics and steroids for possible pneumonia and ILD.
   Cuiltures remain negative.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2168-11-29**] 11:55 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2168-12-01 07:54:00 Physician Resident Progress Note
Chief Complaint: failure to extubate
   24 Hour Events:
   -sputum with 3+ budding yeast and 2+ GPC. Vanco started. Viral panel
   finalized as negative.
   -Decreased FIo2 from 60 to 50. ABG with PaO2 of 52.  transiently
   increased FiO2 to 70% and back to 60% over the course of the day.  PaO2
   stablized with last ABG at
   -Total 30IV Lasix over course of day.
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2168-11-30**] 06:40 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2168-11-30**] 06:30 PM
   Midazolam (Versed) - [**2168-11-30**] 08:35 PM
   Heparin Sodium (Prophylaxis) - [**2168-12-1**] 02:00 AM
   Fentanyl - [**2168-12-1**] 04:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems: intubated, sedated, non- responsive to question
   Flowsheet Data as of  [**2168-12-1**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.8
C (96.5
   HR: 69 (63 - 93) bpm
   BP: 132/56(81) {120/56(81) - 171/117(135)} mmHg
   RR: 23 (14 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,900 mL
                                                                    562 mL
   PO:
             TF:
                                                                  1,039 mL
                                                                    286 mL
   IVF:
                                                                    821 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  2,763 mL
                                                                    320 mL
   Urine:
                                                                  2,763 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -863 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Spontaneous): 570 (570 - 570) mL
   FiO2: 60%
   PC : 18 cmH2O
   PEEP: 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   RSBI Deferred: FiO2 > 60%
   PIP: 32 cmH2O
   SpO2: 95%
   ABG: 7.43/53/92/33/8  @ 5am
   Ve: 11.2 L/min
   PaO2 / FiO2: 153
   Physical Examination
   GEN: elderly woman, Intubated, sedated but minimally arousable to
   verbal stimuli, NAD
   HEENT: EOMI, PERRL, sclera anicteric, MMdry, no cervical
   lymphadenopathy
   COR: RRR, no M/G/R, normal S1 S2,
   PULM: diffuse course breath sounds, minimal rales.
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: 2+ distal pulses.  Bilaterally hand edema, [**Location (un) **] with 1+ edema.
   NEURO: awakens to verbal stimuli.  Opens eyes to commands.
   Somnolent/sedated
   SKIN: No jaundice, cyanosis, or gross dermatitis.
   Labs / Radiology
   341 K/uL
   9.6 g/dL
   140 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.8 mEq/L
   37 mg/dL
   106 mEq/L
   145 mEq/L
   29.4 %
   10.6 K/uL
        [image002.jpg]
                            [**2168-11-29**]  08:50 PM
                            [**2168-11-30**]  12:31 AM
                            [**2168-11-30**]  04:29 AM
                            [**2168-11-30**]  05:06 AM
                            [**2168-11-30**]  12:51 PM
                            [**2168-11-30**]  01:54 PM
                            [**2168-11-30**]  03:08 PM
                            [**2168-11-30**]  09:23 PM
                            [**2168-12-1**]  04:39 AM
                            [**2168-12-1**]  06:51 AM
   WBC
   9.3
   10.6
   Hct
   26.7
   29.4
   Plt
   370
   341 (520)
   Cr
   0.7
   0.6
   TCO2
   29
   31
   34
   34
   37
   35
   32
   36
   Glucose
   131
   140
   Other labs: PT / PTT / INR:12.8/28.8/1.0, Differential-Neuts:89.0 %,
   Band:0.0 %, Lymph:5.8 %, Mono:4.8 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Microbiology: [**2168-11-30**] 11:53 am SPUTUM      Source: Expectorated.
   GRAM STAIN (Final [**2168-11-30**]):
   [**10-8**] PMNs and <10 epithelial cells/100X field.
   3+  (5-10 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.  IN PAIRS AND
   CLUSTERS.
   Assessment and Plan
   This is an 80 year-old woman with a history of COPD, who presents as
   transfer from OSH following possible pneumonia and failure to extubate;
   now intubated x 8 days.
   .
   # Respiratory Failure/Pneumonia: Sputum gram stain from yesterday is
   positive for GPC.  Pt now stated on vancomycin (day 1 [**11-30**]).   Remains
   on Steroids since [**11-27**] and continued to require mechanical ventilation
   as she has been unable to achieve adequate PaO2 with FIO2 <60.
   Currently on PCV+ to help minimize both volume and pressure trauma.
   Diuresis with good reponse on CXR, although by labs, pt appears dry.
   - daily wake up
   - switch to CPAP trial this am
   - continue steroids/abx
   - Plan for family meeting this evening to address goals of care
   # Anemia:  stable.
   - goal hct 25
   # Hypotension:  Resolved; now off pressors with good BP control
   - monitor UOP- fluids for goal UOP >50cc/hr
   # FEN:  tube feeds as tolerated
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: lipitor currently held due to OG tube.
   # Chronic Kidney Disease (Cr 1.4): improved from baseline.
   # Osteoporosis: hx of compression fractures:  No acute issues
   # GERD: PPI
   # Comm:  Daughter ([**First Name5 (NamePattern1) 619**] [**Name (NI) 4269**]).  HCP's are daughter'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 619**]
   ([**Telephone/Fax (1) 4270**]) and [**Doctor Last Name 376**] ([**Telephone/Fax (1) 4271**]).
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2168-12-1**] 03:45 AM 45 mL/hour
   Glycemic Control:   ISS
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT:  SQ heparin, pneumoboots
   Stress ulcer:  PPI
   VAP:  VAP precautions.
   Code status: Full code
   Disposition:  ICU

2168-12-01 11:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, ILD, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Vanco started for gram positive cocci in sputum culture. BAL cultures
   negative. Continues to have high oxygen requirements. Now on 60%
   oxygen.  Afebrile.
   Negative fluid balance achieved yesterday; nearly 1 L negative.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-1**] 07:52 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 9 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2168-11-30**] 06:30 PM
   Fentanyl - [**2168-12-1**] 07:20 AM
   Midazolam (Versed) - [**2168-12-1**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2168-12-1**] 07:51 AM
   Other medications:
   heparin, protonix, ASA, synthroid, colace, fentanyl, insulin,
   solumedrol, reglan, versed,vanco.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-1**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.5
C (97.7
   HR: 72 (63 - 93) bpm
   BP: 126/63(82) {124/56(79) - 171/117(135)} mmHg
   RR: 15 (13 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,900 mL
                                                                  1,047 mL
   PO:
             TF:
                                                                  1,039 mL
                                                                    438 mL
   IVF:
                                                                    821 mL
                                                                    540 mL
   Blood products:
   Total out:
                                                                  2,763 mL
                                                                    587 mL
   Urine:
                                                                  2,763 mL
                                                                    587 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -863 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   Vt (Spontaneous): 570 (570 - 570) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 33 cmH2O
   SpO2: 95%
   ABG: 7.44/53/77/33/9
   Ve: 11 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Mild respiratory
   distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   341 K/uL
   140 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.8 mEq/L
   37 mg/dL
   106 mEq/L
   145 mEq/L
   29.4 %
   10.6 K/uL
        [image002.jpg]
                            [**2168-11-30**]  04:29 AM
                            [**2168-11-30**]  05:06 AM
                            [**2168-11-30**]  12:51 PM
                            [**2168-11-30**]  01:54 PM
                            [**2168-11-30**]  03:08 PM
                            [**2168-11-30**]  09:23 PM
                            [**2168-12-1**]  04:39 AM
                            [**2168-12-1**]  06:51 AM
                            [**2168-12-1**]  09:09 AM
                            [**2168-12-1**]  09:26 AM
   WBC
   9.3
   10.6
   Hct
   26.7
   29.4
   Plt
   370
   341
   Cr
   0.7
   0.6
   TCO2
   34
   34
   37
   35
   32
   36
   26
   37
   Glucose
   131
   140
   Other labs: PT / PTT / INR:12.8/28.8/1.0, Differential-Neuts:89.0 %,
   Band:0.0 %, Lymph:5.8 %, Mono:4.8 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.6 g/dL, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR: Diffuse interstitial markings. The alveolar component in
   the left lung appears to have improved.
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   ANEMIA
   Oxygen requirements persist despite two days of diuresis. BUN/Creat
   ration is elevated; BUN has risen from 27 to 36 since admission. I do
   not think  we should try to diurese any further; urine output has
   dropped off signficantly in the last few hours consistent with the
   patient becoming intravascularly volume depleted. Still  on pressure
   control ventilation; has been requiring more sedation for increased
   work of breathing/agitation. Switch to PSV today on rounds. Patient
   taking bigger tidal volumes; the tidal volume restriction probably was
   contributing to her agitation. With clearing of alveolar opacities with
   diuresis, I am less convinced that she has ARDS, and will allow her to
   take bigger tidal volumes.
   Patient has been intubated for a total of 16 days at [**Hospital3 2882**] and
   here. Will discuss trach with patient's family today. Will try on PEEP
   8 today; if oxygenation stable, she would able to have a percutaneous
   trach.
   Hct stable. No evidence of bleeding. Not at transfusion threshold now.
   ICU Care
   Nutrition: tube feeds
   Nutren Pulmonary (Full) - [**2168-12-1**] 03:45 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2168-12-02 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Pt switched to CPAP in AM with good results over the day; able to
   maintain good sat on 50% FiO2.
   -Given 500cc LR for low UOP with good response.
   -Family meeting --discussed that we would be making arrangements for a
   tracheostomy for Monday, assuming the patient does not appear to be
   ready for extubation at that time.
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-2**] 07:37 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-12-2**] 12:00 AM
   Fentanyl - [**2168-12-2**] 04:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-2**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (97
   HR: 65 (63 - 95) bpm
   BP: 143/63(90) {124/54(77) - 196/161(174)} mmHg
   RR: 18 (11 - 23) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,442 mL
                                                                    610 mL
   PO:
             TF:
                                                                    555 mL
                                                                     68 mL
   IVF:
                                                                  1,607 mL
                                                                    372 mL
   Blood products:
   Total out:
                                                                  1,102 mL
                                                                    325 mL
   Urine:
                                                                  1,102 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,340 mL
                                                                    285 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 641 (625 - 729) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 158
   PIP: 33 cmH2O
   SpO2: 92%
   ABG: 7.40/57/86.[**Numeric Identifier 143**]/33/7
   Ve: 10 L/min
   PaO2 / FiO2: 174
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   303 K/uL
   9.8 g/dL
   126 mg/dL
   0.5 mg/dL
   33 mEq/L
   4.5 mEq/L
   35 mg/dL
   101 mEq/L
   139 mEq/L
   29.6 %
   12.5 K/uL
        [image002.jpg]
                            [**2168-11-30**]  03:08 PM
                            [**2168-11-30**]  09:23 PM
                            [**2168-12-1**]  04:39 AM
                            [**2168-12-1**]  06:51 AM
                            [**2168-12-1**]  09:09 AM
                            [**2168-12-1**]  09:26 AM
                            [**2168-12-1**]  12:14 PM
                            [**2168-12-1**]  05:03 PM
                            [**2168-12-1**]  06:02 PM
                            [**2168-12-2**]  04:15 AM
   WBC
   10.6
   12.5
   Hct
   29.4
   29.6
   Plt
   341
   303
   Cr
   0.6
   0.5
   TCO2
   35
   32
   36
   26
   37
   35
   39
   37
   Glucose
   140
   126
   Other labs: PT / PTT / INR:12.8/28.8/1.0, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:5.8 %,
   Mono:4.8 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   This is an 80 year-old woman with a history of COPD, who presents as
   transfer from OSH following possible pneumonia and failure to extubate;
   now intubated x 9 days.
   .
   # Respiratory Failure/Pneumonia: Sputum gram stain from day before
   yesterday is positive for GPC.  Pt now started on vancomycin (day 1
   [**11-30**]).   Remains on Steroids since [**11-27**] and continued to require
   mechanical ventilation, but now good sats with  50% FiO2. Currently on
   PSV/CPAP.Diuresis with good reponse on CXR, although by labs, pt
   appears dry.
   - daily wake up
   - possible Trach
   - continue steroids/abx
   - Plan for family meeting this evening to address goals of care
   # Anemia:  stable at 29.6
   - Transfuse if under 21
   # Hypotension:  Resolved; now off pressors with pressures between 143
   and 196.
   - monitor UOP- fluids for goal UOP >50cc/hr
   -BP Meds_________
   # FEN:  tube feeds as tolerated
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: lipitor currently held due to OG tube.
   # Chronic Kidney Disease (Cr 1.4): improved from baseline.
   # Osteoporosis: hx of compression fractures:  No acute issues
   # GERD: PPI
   # Comm:  Daughter ([**First Name5 (NamePattern1) 619**] [**Name (NI) 4269**]).  HCP's are daughter'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 619**]
   ([**Telephone/Fax (1) 4270**]) and [**Doctor Last Name 376**] ([**Telephone/Fax (1) 4271**]).
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2168-12-2**] 12:52 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-02 09:46:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient on PSV overnight. Was able to stay on 50% oxygen overnight with
   PEEP of 8.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-2**] 07:37 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-12-2**] 07:43 AM
   Heparin Sodium (Prophylaxis) - [**2168-12-2**] 07:44 AM
   Fentanyl - [**2168-12-2**] 08:54 AM
   Other medications:
   ASA, synthoid, chlorhexidine, solumedrol, reglan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-2**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 85 (63 - 95) bpm
   BP: 147/67(95) {124/54(77) - 196/161(174)} mmHg
   RR: 17 (11 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,442 mL
                                                                    749 mL
   PO:
             TF:
                                                                    555 mL
                                                                     98 mL
   IVF:
                                                                  1,607 mL
                                                                    421 mL
   Blood products:
   Total out:
                                                                  1,102 mL
                                                                    495 mL
   Urine:
                                                                  1,102 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,340 mL
                                                                    254 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 635 (625 - 729) mL
   PS : 12 cmH2O
   RR (Spontaneous): 11
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 158
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.43/54/78.[**Numeric Identifier 181**]/33/9
   Ve: 7.3 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur at base radiating toward right
   shoulder
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : Left greater than right, anterior and lateral,
   No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent :
   , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   303 K/uL
   126 mg/dL
   0.5 mg/dL
   33 mEq/L
   4.5 mEq/L
   35 mg/dL
   101 mEq/L
   139 mEq/L
   29.6 %
   12.5 K/uL
        [image002.jpg]
                            [**2168-11-30**]  09:23 PM
                            [**2168-12-1**]  04:39 AM
                            [**2168-12-1**]  06:51 AM
                            [**2168-12-1**]  09:09 AM
                            [**2168-12-1**]  09:26 AM
                            [**2168-12-1**]  12:14 PM
                            [**2168-12-1**]  05:03 PM
                            [**2168-12-1**]  06:02 PM
                            [**2168-12-2**]  04:15 AM
                            [**2168-12-2**]  07:55 AM
   WBC
   10.6
   12.5
   Hct
   29.4
   29.6
   Plt
   341
   303
   Cr
   0.6
   0.5
   TCO2
   32
   36
   26
   37
   35
   39
   37
   37
   Glucose
   140
   126
   Other labs: PT / PTT / INR:12.8/28.8/1.0, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:5.8 %,
   Mono:4.8 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR: no significant change. Rotated film.
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   ANEMIA
   Respiratory status slowly improving. Today, we have reduced PEEP to 5
   cm H2O. Will see if she can tolerate this on 50% oxygen.
   Volume status positive yesterday. Breathing pattern showing an
   end-expiratory grunt that is suggestive of CHF. Will keep fluids even
   to slightly negative today.
   Sputum cultures growing oral flora. Will stop vanco.
   Hct stable. No evidence of bleeding. Not at threshold for transfusion.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2168-12-2**] 12:52 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2168-12-03 06:26:00 Physician Resident Progress Note
Chief Complaint: failure to wean from ventilator
   24 Hour Events:
   - IP consulted - PEEP < 10, plan to perform trach/peg tuesday
   - Plan to continue Solumedrol at high dose today and began taper to 60
   tid tommorow
   - D/cd Vanco (sputum cx negative)
   - I/O - net positive yesterday, goal even today ; @ 1500 was +390cc -->
   gave lasix 20 iv x1 --> put out 1 L
   - Continue to wean vent; ABG 7.44/52/59/36 on PS 12/5 fio2 0.5 -->
   7.42/56/67/38 on [**11-21**] fio2 0.5 ---> 7.46/53/64/39 on [**11-21**] fi o2 0.5
   ---> 7.44/55/75/39 on [**11-23**]
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-2**] 07:37 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-12-2**] 07:43 AM
   Fentanyl - [**2168-12-2**] 08:54 AM
   Heparin Sodium (Prophylaxis) - [**2168-12-2**] 03:43 PM
   Furosemide (Lasix) - [**2168-12-2**] 04:00 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nonverbal. Shakes head no to pain.
   Flowsheet Data as of  [**2168-12-3**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 75 (61 - 96) bpm
   BP: 158/67(96) {112/46(68) - 158/138(147)} mmHg
   RR: 16 (9 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,606 mL
                                                                    339 mL
   PO:
             TF:
                                                                    500 mL
                                                                    192 mL
   IVF:
                                                                    826 mL
                                                                    147 mL
   Blood products:
   Total out:
                                                                  1,941 mL
                                                                    330 mL
   Urine:
                                                                  1,941 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -335 mL
                                                                      9 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 649 (511 - 699) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 92%
   ABG: 7.44/55/75//10
   Ve: 8.9 L/min
   PaO2 / FiO2: 150
   Physical Examination
   GEN: elderly woman, Intubated, sedated but minimally arousable to
   verbal stimuli, NAD
   HEENT: EOMI, PERRL, sclera anicteric, MMdry, no cervical
   lymphadenopathy
   COR: RRR, 2/6 SEM loudest at LUSB, normal S1 S2,
   PULM: upper airway sounds in bilatarel lung fields anteriorly
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: 2+ distal pulses.  WWP extremities. 2+ LE and UE pitting edema
   NEURO: awakens to verbal stimuli.  Opens eyes to commands.
   Somnolent/sedated
   SKIN: No jaundice, cyanosis, or gross dermatitis.
   Labs / Radiology
   281 K/uL
   10.2 g/dL
   126 mg/dL
   0.5 mg/dL
   33 mEq/L
   4.5 mEq/L
   35 mg/dL
   101 mEq/L
   139 mEq/L
   30.2 %
   15.3 K/uL
                            [**2168-12-1**]  05:03 PM
                            [**2168-12-1**]  06:02 PM
                            [**2168-12-2**]  04:15 AM
                            [**2168-12-2**]  07:55 AM
                            [**2168-12-2**]  10:12 AM
                            [**2168-12-2**]  01:03 PM
                            [**2168-12-2**]  01:53 PM
                            [**2168-12-2**]  05:59 PM
                            [**2168-12-3**]  05:41 AM
                            [**2168-12-3**]  05:58 AM
   WBC
   12.5
   15.3
   Hct
   29.6
   30.2
   Plt
   303
   281
   Cr
   0.5
   TCO2
   39
   37
   37
   37
   36
   38
   39
   39
   Glucose
   126
   Other labs: PT / PTT / INR:12.8/28.8/1.0, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:5.8 %,
   Mono:4.8 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   This is an 80 year-old woman with a history of COPD, who presents as
   transfer from OSH following possible pneumonia and failure to extubate;
   now intubated x 10 days.
   .
   # Respiratory Failure/Pneumonia: Likely [**1-16**] to ILD/COPD. No evidence of
   pulmonary infection. Sputum gram stain [**11-30**] positive for GPC and
   Yeast.  Pt now started on vancomycin (day 1 [**11-30**]) which was d/cd [**12-2**]
   given no evidence of pna.   Remains on Steroids since [**11-27**] and
   continued to require mechanical ventilation, but now good sats with
   50% FiO2. Required increased peep from 5 to 12 for adequate oxygention
   yesterday .Diuresis with good reponse on CXR, although by labs, pt
   appears dry.
   - daily wake up
   - Attempt to wean ventilator settings. Decrease PEEP to 8 and continue
   Pressure Support Ventilation. Goal PEEP less than 10 prior to trach.
   Recheck abg.
   - IP consulted re: possible trach next week
   - Attempt diuresis incase the is a component of pulmonary ededa
   contributing to respiratory failure (hypoxemia)
   - solumedrol 80 TID
 60 mg TID
   # Fluid Status: Goal I/O negative 1 L
   # Anemia:  stable at 30.2
   - Transfuse if under 21
   # Hypotension:  Resolved; now off pressors with pressures between 112
   and 158.
   - monitor UOP- fluids for goal UOP >50cc/hr
   # FEN:  tube feeds as tolerated
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: lipitor currently held due to OG tube.
   # Chronic Kidney Disease (Cr 1.4): improved from baseline.
   # Osteoporosis: hx of compression fractures:  No acute issues
   # GERD: PPI
   # Comm:  Daughter ([**First Name5 (NamePattern1) 619**] [**Name (NI) 4269**]).  HCP's are daughter'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 619**]
   ([**Telephone/Fax (1) 4270**]) and [**Doctor Last Name 376**] ([**Telephone/Fax (1) 4271**]).
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2168-12-3**] 12:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT:  sqh
   Stress ulcer:  ppi
   VAP:  hob elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-03 08:36:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Consulted IP with Plan for trach and their Goal keep PEEP < 10
   Medrol taper planned
   Stopped Vanco given absence of + cultures.
   kept neg 500 cc to even with Lasix
   PSV 12/5 - req PEEP increased to for PaO2 to 8-10 range
   She did have several episodes of HTn and vent dysyncronchy overnight,
   tried MMV without sig change and ended up getting bolus sedation.
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-2**] 07:37 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2168-12-2**] 08:54 AM
   Heparin Sodium (Prophylaxis) - [**2168-12-2**] 03:43 PM
   Furosemide (Lasix) - [**2168-12-2**] 04:00 PM
   Other medications:
   ASA, levothyroxine, chlorhex, colace, Medrol 80 uv q8, reglan, Lantus
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-3**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 75 (61 - 96) bpm
   BP: 158/67(96) {112/46(68) - 158/138(147)} mmHg
   RR: 16 (9 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,606 mL
                                                                    443 mL
   PO:
             TF:
                                                                    500 mL
                                                                    250 mL
   IVF:
                                                                    826 mL
                                                                    193 mL
   Blood products:
   Total out:
                                                                  1,941 mL
                                                                    330 mL
   Urine:
                                                                  1,941 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -335 mL
                                                                    113 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 568 (511 - 699) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 33
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 97%
   ABG: 7.44/55/75/35/10
   Ve: 12.9 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: intubated and sedated
   Head, Ears, Nose, Throat: Normocephalic, PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic [**1-20**]
   Respiratory / Chest: (Breath Sounds: Crackles  bilat with inspire, no
   wheezes
   Abdominal: Soft, NT _BS
   Skin:  warm, no rash
   Neurologic: sedated, open eyes to request
   Labs / Radiology
   10.2 g/dL
   281 K/uL
   121 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.7 mEq/L
   37 mg/dL
   99 mEq/L
   139 mEq/L
   30.2 %
   15.3 K/uL
        [image002.jpg]
                            [**2168-12-1**]  05:03 PM
                            [**2168-12-1**]  06:02 PM
                            [**2168-12-2**]  04:15 AM
                            [**2168-12-2**]  07:55 AM
                            [**2168-12-2**]  10:12 AM
                            [**2168-12-2**]  01:03 PM
                            [**2168-12-2**]  01:53 PM
                            [**2168-12-2**]  05:59 PM
                            [**2168-12-3**]  05:41 AM
                            [**2168-12-3**]  05:58 AM
   WBC
   12.5
   15.3
   Hct
   29.6
   30.2
   Plt
   303
   281
   Cr
   0.5
   0.5
   TCO2
   39
   37
   37
   37
   36
   38
   39
   39
   Glucose
   126
   121
   Other labs: PT / PTT / INR:12.8/28.8/1.0, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:5.8 %,
   Mono:4.8 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   ANEMIA
   Problems:
   Resp: Respiratory status tenuous overnight- mainly discomfort with the
   vent- responding to bolus sedation but why is she more uncomfortable.
   She did not end up getting as neg as she should have and is still
   having end exp grunt this AM. More diuresis will be our initial plan.
   Yesterday, we had reduced PEEP to 5 cm H2O but she had some issues with
   hypoxemia so back up to 10 now.   Can try to up driving pressures to
   see if improved comfort but seems she should not need as TV are 550 and
   bicarb is 35 with a compensated ph and PCAO2 55. That said her PAC02 is
   up from 40s so may have pushed to far and too fast.
   Volume status: positive, breathing pattern showing an end-expiratory
   grunt that is suggestive of CHF. Will oush for 500 to 1000 cc neg today
   Sputum cultures growing oral flora. Stopped Vanco yesterday
   Hct stable. No evidence of bleeding. Not at threshold for transfusion.
   Remaining issues as per Housestaff notes, reviwed and discussed on
   rounds.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB, chlorhex,
   Communication:  with family
 last fam mtg Thursday night
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2168-12-04 06:58:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
   Pt was given Lasix 20 in AM and 10 in PM to achieve goal negative fluid
   balance.
   Discontinued Vancomycin
   Steroids were decreased from 80 to 60 TID
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-2**] 07:37 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2168-12-3**] 09:00 PM
   Midazolam (Versed) - [**2168-12-4**] 06:09 AM
   Fentanyl - [**2168-12-4**] 06:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-4**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 76 (62 - 98) bpm
   BP: 152/59(90) {99/41(58) - 179/106(120)} mmHg
   RR: 23 (14 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,227 mL
                                                                    721 mL
   PO:
             TF:
                                                                    599 mL
                                                                    189 mL
   IVF:
                                                                    579 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  2,623 mL
                                                                    290 mL
   Urine:
                                                                  2,473 mL
                                                                    290 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,396 mL
                                                                    432 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 451 (451 - 451) mL
   Vt (Spontaneous): 568 (568 - 568) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 36 cmH2O
   SpO2: 96%
   ABG: 7.46/56/84.[**Numeric Identifier 1000**]/39/13
   Ve: 7.7 L/min
   PaO2 / FiO2: 168
   Physical Examination
   GEN: elderly woman, Intubated, sedated but minimally arousable to
   verbal stimuli, NAD
   HEENT: EOMI, PERRL, sclera anicteric, MMdry, no cervical
   lymphadenopathy
   COR: RRR, 2/6 SEM loudest at LUSB, normal S1 S2,
   PULM: CTAB
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: 2+ distal pulses.  WWP extremities. 2+ LE and hands with
   non-pitting edema
   NEURO: awakens to verbal stimuli.  Opens eyes to commands.
   Somnolent/sedated, non-reponsive to questioning.
   SKIN: No jaundice, cyanosis, or gross dermatitis.
   Labs / Radiology
   222 K/uL
   9.2 g/dL
   125 mg/dL
   0.6 mg/dL
   39 mEq/L
   4.4 mEq/L
   38 mg/dL
   99 mEq/L
   142 mEq/L
   27.8 %
   10.0 K/uL
        [image002.jpg]
                            [**2168-12-2**]  10:12 AM
                            [**2168-12-2**]  01:03 PM
                            [**2168-12-2**]  01:53 PM
                            [**2168-12-2**]  05:59 PM
                            [**2168-12-3**]  05:41 AM
                            [**2168-12-3**]  05:58 AM
                            [**2168-12-3**]  11:03 AM
                            [**2168-12-3**]  02:48 PM
                            [**2168-12-4**]  03:13 AM
                            [**2168-12-4**]  04:15 AM
   WBC
   15.3
   10.0
   Hct
   30.2
   27.8
   Plt
   281
   222
   Cr
   0.5
   0.6
   TCO2
   37
   36
   38
   39
   39
   40
   38
   41
   Glucose
   121
   125
   Other labs: PT / PTT / INR:12.8/39.1/1.1, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:5.8 %,
   Mono:4.8 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   This is an 80 year-old woman with a history of COPD, who presents as
   transfer from OSH following possible pneumonia and failure to extubate;
   now intubated x 10 days.
   .
   # Respiratory Failure/Pneumonia: Likely [**1-16**] to ILD/COPD. No evidence of
   pulmonary infection. Sputum gram stain [**11-30**] positive for GPC and
   Yeast.    Remains on Steroids since [**11-27**] and continued to require
   mechanical ventilation, but now good sats with  50% FiO2.  Required
   increased peep from 5 to 12 for adequate oxygention yesterday.
   Diuresis with good reponse on CXR, although by labs, pt appears dry.
   - daily wake up
   - Attempt to wean ventilator settings. Decrease PEEP to 8 and continue
   Pressure Support Ventilation. Goal PEEP less than 10 prior to trach.
   Recheck abg.
   - IP consulted re: possible trach next week
   - Attempt diuresis incase the is a component of pulmonary ededa
   contributing to respiratory failure (hypoxemia)
   - solumedrol 80 TID
 60 mg TID
   # Fluid Status: Goal I/O negative 1 L
   # Anemia:  stable at 30.2
   - Transfuse if under 21
   # Hypotension:  Resolved; now off pressors with pressures between 112
   and 158.
   - monitor UOP- fluids for goal UOP >50cc/hr
   # FEN:  tube feeds as tolerated
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: lipitor currently held due to OG tube.
   # Chronic Kidney Disease (Cr 1.4): improved from baseline.
   # Osteoporosis: hx of compression fractures:  No acute issues
   # GERD: PPI
   # Comm:  Daughter ([**First Name5 (NamePattern1) 619**] [**Name (NI) 4269**]).  HCP's are daughter'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 619**]
   ([**Telephone/Fax (1) 4270**]) and [**Doctor Last Name 376**] ([**Telephone/Fax (1) 4271**]).
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2168-12-4**] 05:42 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-04 10:37:00 Physician Attending Progress Note
Chief Complaint: resp failure in setting of COPD and ILD
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 80 yr old woman with COPD and ILD respiratory failure
   24 Hour Events:
   Switched to PCV +
   Given Lasix for goal negative
   Weaning Steroids slowly
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-2**] 07:37 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2168-12-3**] 09:00 PM
   Midazolam (Versed) - [**2168-12-4**] 06:09 AM
   Fentanyl - [**2168-12-4**] 06:09 AM
   Heparin Sodium (Prophylaxis) - [**2168-12-4**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-4**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 70 (62 - 91) bpm
   BP: 122/53(70) {99/41(58) - 165/106(120)} mmHg
   RR: 15 (14 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,227 mL
                                                                  1,114 mL
   PO:
             TF:
                                                                    599 mL
                                                                    301 mL
   IVF:
                                                                    579 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                  2,623 mL
                                                                    580 mL
   Urine:
                                                                  2,473 mL
                                                                    580 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,396 mL
                                                                    534 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 451 (451 - 451) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 40 cmH2O
   SpO2: 95%
   ABG: 7.46/56/84
   Ve: 7.1 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: intubated and sedated
   Head, Ears, Nose, Throat: Normocephalic, PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic [**1-20**]
   Respiratory / Chest: (Breath Sounds: Crackles  bilat with inspiration,
   no wheezes
   Abdominal: Soft, NT _BS
   Skin:  warm, no rash
   Neurologic: sedated, open eyes to request but not reliably following
   all commands
   Labs / Radiology
   9.2 g/dL
   222 K/uL
   125 mg/dL
   0.6 mg/dL
   39 mEq/L
   4.4 mEq/L
   38 mg/dL
   99 mEq/L
   142 mEq/L
   27.8 %
   10.0 K/uL
        [image002.jpg]
                            [**2168-12-2**]  10:12 AM
                            [**2168-12-2**]  01:03 PM
                            [**2168-12-2**]  01:53 PM
                            [**2168-12-2**]  05:59 PM
                            [**2168-12-3**]  05:41 AM
                            [**2168-12-3**]  05:58 AM
                            [**2168-12-3**]  11:03 AM
                            [**2168-12-3**]  02:48 PM
                            [**2168-12-4**]  03:13 AM
                            [**2168-12-4**]  04:15 AM
   WBC
   15.3
   10.0
   Hct
   30.2
   27.8
   Plt
   281
   222
   Cr
   0.5
   0.6
   TCO2
   37
   36
   38
   39
   39
   40
   38
   41
   Glucose
   121
   125
   Other labs: PT / PTT / INR:12.8/39.1/1.1, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:5.8 %,
   Mono:4.8 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 .H/O HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   ANEMIA
   Problems:
   Resp Distress: in setting of severe COPD and ILD- with plans for trach
   tomm or Tues. We have maximized diuresis.  She seems to have ever
   rotating vent settings- trying to keep comfortable on vent but changes
   with every shift and more a subjective assessment of discomfort rather
   than objective changes in oxygenation or ventilation. For now we have
   settled at PCV
 good ABG try to drop PEEP in anticipation of trach
   (goal 10 or less) and then work on driving pressure. She does seem to
   have sig anxiety component so adequate sedation until trach done has
   been useful in maintaining vent synchrony.
   Anemia: Hct stable. No evidence of bleeding. Not at threshold for
   transfusion.
   Remaining issues as per Housestaff notes, reviwed and discussed on
   rounds.
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2168-12-4**] 05:42 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: chlorhex, HOB
   Communication:  with daughter, last family meeting on thursday
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2168-12-05 06:30:00 Physician Resident Progress Note
Chief Complaint: failure to wean from ventilator
   24 Hour Events:
   - goal to keep the paient negative to even; given 20mg lasix with good
   response.
   - Peep weaned to 10.
   - pt had swelling of he left upper extremtiry; u/s negative for DVT.
   - tube feeds held at midnight in case trach could be performed... can
   restart if not planned until [**12-6**].
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-2**] 07:37 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 175 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2168-12-4**] 09:33 PM
   Heparin Sodium (Prophylaxis) - [**2168-12-5**] 12:09 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nonverbal
   Flowsheet Data as of  [**2168-12-5**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 62 (61 - 87) bpm
   BP: 122/52(73) {94/38(54) - 163/100(120)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,246 mL
                                                                    392 mL
   PO:
             TF:
                                                                    869 mL
                                                                     33 mL
   IVF:
                                                                    632 mL
                                                                    209 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    460 mL
   Urine:
                                                                  1,590 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    656 mL
                                                                    -68 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 40 cmH2O
   Plateau: 37 cmH2O
   SpO2: 95%
   ABG: 7.44/59/91.[**Numeric Identifier 143**]/39/12
   Ve: 7.3 L/min
   PaO2 / FiO2: 184
   Physical Examination
   GEN: elderly woman, Intubated, sedated, NAD
   HEENT: EOMI, PERRL, sclera anicteric, MMdry, no cervical
   lymphadenopathy
   COR: RRR, 2/6 SEM loudest at LUSB, normal S1 S2,
   PULM: CTAB in anterior lung fields
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: 2+ distal pulses.  WWP extremities. 2+ LE and hands with
   non-pitting edema
   NEURO: awakens to verbal stimuli.  Opens eyes to commands.
   Somnolent/sedated, non-reponsive to questioning.
   SKIN: No jaundice, cyanosis, or gross dermatitis.
   Labs / Radiology
   201 K/uL
   9.4 g/dL
   110 mg/dL
   0.5 mg/dL
   39 mEq/L
   4.2 mEq/L
   38 mg/dL
   98 mEq/L
   139 mEq/L
   28.1 %
   10.5 K/uL
        [image002.jpg]
                            [**2168-12-3**]  05:41 AM
                            [**2168-12-3**]  05:58 AM
                            [**2168-12-3**]  11:03 AM
                            [**2168-12-3**]  02:48 PM
                            [**2168-12-4**]  03:13 AM
                            [**2168-12-4**]  04:15 AM
                            [**2168-12-4**]  07:59 PM
                            [**2168-12-5**]  12:17 AM
                            [**2168-12-5**]  04:30 AM
                            [**2168-12-5**]  04:52 AM
   WBC
   15.3
   10.0
   10.5
   Hct
   30.2
   27.8
   28.1
   Plt
   [**Telephone/Fax (3) 4506**]
   Cr
   0.5
   0.6
   0.5
   TCO2
   39
   40
   38
   41
   41
   42
   41
   Glucose
   121
   125
   110
   Other labs: PT / PTT / INR:12.5/38.3/1.1, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.5 %, Band:0.0 %, Lymph:4.4 %,
   Mono:5.7 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   This is an 80 year-old woman with a history of COPD, who presents as
   transfer from OSH following possible pneumonia and failure to extubate;
   now intubated x 11 days.
   .
   # Respiratory Failure/Pneumonia: Likely [**1-16**] to ILD/COPD. No evidence of
   pulmonary infection. Sputum gram stain [**11-30**] positive for GPC and
   Yeast.    Good sats with  50% FiO2.  Diuresis with good reponse on CXR,
   although by labs, pt appears dry.
   - daily wake up
   - Given appropriate oxygen saturation, plan to decrease peep from 8 to
   5
   - Plan for trach/peg today by IP
   - keep i/o even roughly
   - Plan to taper steroids from solumedrol 60 tid to 40 tid tomorrow
   # Fluid Status: Goal I/O negative 1 L
   # Anemia:  stable at 28.1
   - Transfuse if under 21
   # Hypotension:  Resolved; now off pressors with pressures between 112
   and 158.
   - monitor UOP- fluids for goal UOP >50cc/hr
   # FEN:  tube feeds as tolerated
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: lipitor currently held due to OG tube.
   # Chronic Kidney Disease (Cr 1.4): improved from baseline.
   # Osteoporosis: hx of compression fractures:  No acute issues
   # GERD: PPI
   # Comm:  Daughter ([**First Name5 (NamePattern1) 619**] [**Name (NI) 4269**]).  HCP's are daughter'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 619**]
   ([**Telephone/Fax (1) 4270**]) and [**Doctor Last Name 376**] ([**Telephone/Fax (1) 4271**]).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: ppi
   VAP:  hob elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-05 11:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2168-12-4**] 02:25 PM
   LUE swelling --> no evidence for DVT.
   Remains intubated, mechanically ventilated.
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 175 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2168-12-4**] 09:33 PM
   Pantoprazole (Protonix) - [**2168-12-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2168-12-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2168-12-5**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 61 (61 - 87) bpm
   BP: 104/39(56) {94/38(54) - 163/100(120)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,246 mL
                                                                    544 mL
   PO:
             TF:
                                                                    869 mL
                                                                     33 mL
   IVF:
                                                                    632 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    700 mL
   Urine:
                                                                  1,590 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    656 mL
                                                                   -156 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 41 cmH2O
   Plateau: 35 cmH2O
   SpO2: 98%
   ABG: 7.44/59/91.[**Numeric Identifier 143**]/39/12
   Ve: 6.9 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   201 K/uL
   110 mg/dL
   0.5 mg/dL
   39 mEq/L
   4.2 mEq/L
   38 mg/dL
   98 mEq/L
   139 mEq/L
   28.1 %
   10.5 K/uL
        [image002.jpg]
                            [**2168-12-3**]  05:41 AM
                            [**2168-12-3**]  05:58 AM
                            [**2168-12-3**]  11:03 AM
                            [**2168-12-3**]  02:48 PM
                            [**2168-12-4**]  03:13 AM
                            [**2168-12-4**]  04:15 AM
                            [**2168-12-4**]  07:59 PM
                            [**2168-12-5**]  12:17 AM
                            [**2168-12-5**]  04:30 AM
                            [**2168-12-5**]  04:52 AM
   WBC
   15.3
   10.0
   10.5
   Hct
   30.2
   27.8
   28.1
   Plt
   [**Telephone/Fax (3) 4506**]
   Cr
   0.5
   0.6
   0.5
   TCO2
   39
   40
   38
   41
   41
   42
   41
   Glucose
   121
   125
   110
   Other labs: PT / PTT / INR:12.5/38.3/1.1, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.5 %, Band:0.0 %, Lymph:4.4 %,
   Mono:5.7 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Respiratory failure, ILD.
   RESPIRATORY FAILURE -- persistent.  s/p pneumonia.  Underlying ILD
   (?IPF vs. NSIP).  Perhaps recent component of pulmonary edema.
   Continue mechanical ventilation.  Work towards trach today.  Maintain
   SaO2 >90%.  Consider change mode to IPS.
   ILD -- no further therapy available.  Continue steroids.
   FLUIDS -- euvolemic.  monitor I/O.  Maintain balance.
   NUTRITIONAL SUPPORT -- TF on hold.  Anticipate PEG today.
   HYPOTENSION -- resolved.  Monitor.
   ANEMIA -- stable.  ACD.
   DISPOSITION
 initiate screening for ventilator rehab placement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2168-12-06 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2168-12-5**] 02:16 PM
 PERCUTANEOUS TRACHEOSTOMY - At [**2168-12-5**] 02:20 PM
 ENDOSCOPY - At [**2168-12-5**] 03:08 PM
 ENDOSCOPY - At [**2168-12-5**] 03:48 PM
 PEG INSERTION - At [**2168-12-5**] 04:05 PM
 EKG - At [**2168-12-5**] 11:30 PM
   - trach and peg performed by IP - advise G tube to gravity o/n
   - post CXR - air under diaphragm, wnl
   - i/o - -200 cc 1700 --> lasix 20 x1  --> diuresed 1.2 L
   - 2300 - episode of hypotension to SBPs 70s after 1.2 L diuresis,
   hypoxia to 88 %, cuff leak noted, episode V tach x 18 beats followed by
   bradycardia to the 40s, ecg with sinus arrhythmia --> lytes wnl,
   received 500 cc bolus, improved with secretion clearing, cuff inflated
   - cx data remains negative
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-12-5**] 08:00 AM
   Vecuronium - [**2168-12-5**] 02:20 PM
   Heparin Sodium (Prophylaxis) - [**2168-12-5**] 11:46 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-6**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 59 (52 - 83) bpm
   BP: 146/57(82) {88/38(51) - 174/75(110)} mmHg
   RR: 16 (0 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,505 mL
                                                                    163 mL
   PO:
                                                                     10 mL
             TF:
                                                                     33 mL
   IVF:
                                                                  1,282 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                    545 mL
   Urine:
                                                                  2,240 mL
                                                                    520 mL
   NG:
   25 mL
   Stool:
   Drains:
   Balance:
                                                                   -735 mL
                                                                   -382 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 40 cmH2O
   Plateau: 37 cmH2O
   SpO2: 96%
   ABG: 7.45/55/102/35/11
   Ve: 7.2 L/min
   PaO2 / FiO2: 204
   Physical Examination
   GEN: elderly woman, Intubated, sedated, NAD
   HEENT: EOMI, PERRL, sclera anicteric, MMdry, no cervical
   lymphadenopathy
   COR: RRR, 2/6 SEM loudest at LUSB, normal S1 S2,
   PULM: CTAB in anterior lung fields
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: 2+ distal pulses.  WWP extremities. 2+ LE and hands with
   non-pitting edema
   NEURO: awakens to verbal stimuli.  Opens eyes to commands.
   Somnolent/sedated, non-reponsive to questioning.
   SKIN: No jaundice, cyanosis, or gross dermatitis
   Labs / Radiology
   180 K/uL
   10.1 g/dL
   119 mg/dL
   0.4 mg/dL
   35 mEq/L
   3.8 mEq/L
   30 mg/dL
   100 mEq/L
   142 mEq/L
   30.7 %
   10.8 K/uL
        [image002.jpg]
                            [**2168-12-4**]  03:13 AM
                            [**2168-12-4**]  04:15 AM
                            [**2168-12-4**]  07:59 PM
                            [**2168-12-5**]  12:17 AM
                            [**2168-12-5**]  04:30 AM
                            [**2168-12-5**]  04:52 AM
                            [**2168-12-5**]  11:02 PM
                            [**2168-12-5**]  11:12 PM
                            [**2168-12-6**]  04:40 AM
                            [**2168-12-6**]  05:01 AM
   WBC
   10.0
   10.5
   10.8
   Hct
   27.8
   28.1
   30.7
   Plt
   222
   201
   180
   Cr
   0.6
   0.5
   0.5
   0.4
   TCO2
   41
   41
   42
   41
   41
   39
   Glucose
   125
   110
   121
   119
   Other labs: PT / PTT / INR:12.5/28.5/1.1, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.5 %, Band:0.0 %, Lymph:4.4 %,
   Mono:5.7 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Assessment and Plan
   This is an 80 year-old woman with a history of COPD, who presents as
   transfer from OSH following possible pneumonia and failure to extubate;
   now intubated x 11 days.
   .
   # Respiratory Failure/Pneumonia: Likely [**1-16**] to ILD/COPD. No evidence of
   pulmonary infection. Sputum gram stain [**11-30**] positive for GPC and
   Yeast.    Good sats with  50% FiO2.  Diuresis with good reponse on CXR,
   although by labs, pt appears dry.
   - daily wake up
   - Given appropriate oxygen saturation, plan to decrease peep from 8 to
   5
   - Plan for trach/peg today by IP
   - keep i/o even roughly
   - Plan to taper steroids from solumedrol 60 tid to 40 tid tomorrow
   # Fluid Status: Goal I/O negative 1 L
   # Anemia:  stable at 28.1
   - Transfuse if under 21
   # Hypotension:  Resolved; now off pressors with pressures between 112
   and 158.
   - monitor UOP- fluids for goal UOP >50cc/hr
   # FEN:  tube feeds as tolerated
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: lipitor currently held due to OG tube.
   # Chronic Kidney Disease (Cr 1.4): improved from baseline.
   # Osteoporosis: hx of compression fractures:  No acute issues
   # GERD: PPI
   # Comm:  Daughter ([**First Name5 (NamePattern1) 619**] [**Name (NI) 4269**]).  HCP's are daughter'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 619**]
   ([**Telephone/Fax (1) 4270**]) and [**Doctor Last Name 376**] ([**Telephone/Fax (1) 4271**]).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-06 08:33:00 Physician Resident Progress Note
Chief Complaint: epistaxis
   24 Hour Events:
   - no epistaxis
   - reported red clots via ostomy
   - repeat Hct - 26.5 > 20.8 > 20.7
   - t and s d
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Vecuronium - [**2168-12-5**] 02:20 PM
   Heparin Sodium (Prophylaxis) - [**2168-12-5**] 11:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-6**] 08:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 57 (52 - 83) bpm
   BP: 123/53(73) {88/38(51) - 174/75(110)} mmHg
   RR: 15 (0 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
             Total In:
                                                                  1,505 mL
                                                                    195 mL
   PO:
                                                                     10 mL
             TF:
                                                                     33 mL
   IVF:
                                                                  1,282 mL
                                                                    195 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                    545 mL
   Urine:
                                                                  2,240 mL
                                                                    520 mL
   NG:
   25 mL
   Stool:
   Drains:
   Balance:
                                                                   -735 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 40 cmH2O
   Plateau: 37 cmH2O
   SpO2: 96%
   ABG: 7.45/55/102/35/11
   Ve: 7 L/min
   PaO2 / FiO2: 204
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   180 K/uL
   10.1 g/dL
   119 mg/dL
   0.4 mg/dL
   35 mEq/L
   3.8 mEq/L
   30 mg/dL
   100 mEq/L
   142 mEq/L
   30.7 %
   10.8 K/uL
        [image002.jpg]
                            [**2168-12-4**]  03:13 AM
                            [**2168-12-4**]  04:15 AM
                            [**2168-12-4**]  07:59 PM
                            [**2168-12-5**]  12:17 AM
                            [**2168-12-5**]  04:30 AM
                            [**2168-12-5**]  04:52 AM
                            [**2168-12-5**]  11:02 PM
                            [**2168-12-5**]  11:12 PM
                            [**2168-12-6**]  04:40 AM
                            [**2168-12-6**]  05:01 AM
   WBC
   10.0
   10.5
   10.8
   Hct
   27.8
   28.1
   30.7
   Plt
   222
   201
   180
   Cr
   0.6
   0.5
   0.5
   0.4
   TCO2
   41
   41
   42
   41
   41
   39
   Glucose
   125
   110
   121
   119
   Other labs: PT / PTT / INR:12.5/28.5/1.1, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.5 %, Band:0.0 %, Lymph:4.4 %,
   Mono:5.7 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-06 11:42:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2168-12-5**] 02:16 PM
 PERCUTANEOUS TRACHEOSTOMY - At [**2168-12-5**] 02:20 PM
 ENDOSCOPY - At [**2168-12-5**] 03:08 PM
 ENDOSCOPY - At [**2168-12-5**] 03:48 PM
 PEG INSERTION - At [**2168-12-5**] 04:05 PM
 EKG - At [**2168-12-5**] 11:30 PM
   s/p percutaneous tracheotomy tube and PEG yesterday, uneventful.
   Experienced episode of bradycardia and hypotension last PM, resolved
   with suctioning of mucus plug.
   History obtained from Medical records
   Patient unable to provide history: Mechanical ventilation
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Vecuronium - [**2168-12-5**] 02:20 PM
   Pantoprazole (Protonix) - [**2168-12-6**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2168-12-6**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, Bradycardia
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, PEG
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2168-12-6**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 90 (52 - 90) bpm
   BP: 120/60(78) {88/38(51) - 174/75(110)} mmHg
   RR: 22 (0 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,505 mL
                                                                    265 mL
   PO:
                                                                     10 mL
             TF:
                                                                     33 mL
   IVF:
                                                                  1,282 mL
                                                                    265 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                    685 mL
   Urine:
                                                                  2,240 mL
                                                                    660 mL
   NG:
   25 mL
   Stool:
   Drains:
   Balance:
                                                                   -735 mL
                                                                   -420 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 40 cmH2O
   Plateau: 37 cmH2O
   SpO2: 93%
   ABG: 7.45/55/102/35/11
   Ve: 7 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Tracheotomy
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.1 g/dL
   180 K/uL
   119 mg/dL
   0.4 mg/dL
   35 mEq/L
   3.8 mEq/L
   30 mg/dL
   100 mEq/L
   142 mEq/L
   30.7 %
   10.8 K/uL
        [image002.jpg]
                            [**2168-12-4**]  03:13 AM
                            [**2168-12-4**]  04:15 AM
                            [**2168-12-4**]  07:59 PM
                            [**2168-12-5**]  12:17 AM
                            [**2168-12-5**]  04:30 AM
                            [**2168-12-5**]  04:52 AM
                            [**2168-12-5**]  11:02 PM
                            [**2168-12-5**]  11:12 PM
                            [**2168-12-6**]  04:40 AM
                            [**2168-12-6**]  05:01 AM
   WBC
   10.0
   10.5
   10.8
   Hct
   27.8
   28.1
   30.7
   Plt
   222
   201
   180
   Cr
   0.6
   0.5
   0.5
   0.4
   TCO2
   41
   41
   42
   41
   41
   39
   Glucose
   125
   110
   121
   119
   Other labs: PT / PTT / INR:12.5/28.5/1.1, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.5 %, Band:0.0 %, Lymph:4.4 %,
   Mono:5.7 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Respiratory failure, acute and chronic.  ILD.
   RESPIRATORY FAILURE -- persistent.  s/p pneumonia.  Underlying ILD
   (?IPF vs. NSIP).  Perhaps recent component of pulmonary edema.
   Continue mechanical ventilation.  Work towards trach today.  Maintain
   SaO2 >90%.  Consider change mode to IPS.
   ILD -- no further therapy available.  Continue steroids.
   HYPOTENSION
 related to bradycardia.  Resolved.
   BRADYCARDIA
 attributed to mucous plug.  Resolved.  Monitor HR.
   FREE AIR UNDER DIAPHRAGM
 ascribed to PEG placement.  No evidence for
   acute surgical abd.
   FLUIDS -- euvolemic.  monitor I/O.  Maintain balance.
   NUTRITIONAL SUPPORT
 initiate TF via PEG today.
   HYPOTENSION -- resolved.  Monitor.
   PAIN MANAGEMENT
 transition from iv to PO or topical regimen.
   ANEMIA -- stable.  ACD.
   DISPOSITION
 initiate screening for ventilator rehab placement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent: 50 minutes

2168-12-07 07:38:00 Physician Resident Progress Note
Chief Complaint: 80 yo F with COPD and restrictive lung disease
   transferred from OSH with PNA and failure to extubate.
   24 Hour Events:
   - resp culture unremarkable (mod yeast)
   - wean IV fentanyl 100 to fentanyl patch (50 mcg), fent gtt 50 plus
   fentanyl boluses q2PRN.
   - wean versed to valium
   - tapered solumedrol to 40 TID
   - attempt different vent settings (AC)-> did not tolerate->SIMV did not
   tolerate-> Back to PC, better.
   - diurese (goal -500 cc) -> -700 at MN
   - started Gtibe feeds
   - rehab screening started -cannot go while on PC
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-12-6**] 08:00 AM
   Fentanyl - [**2168-12-6**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2168-12-6**] 04:00 PM
   Other medications:
   Levothyroxine 25 mg PO daily
   ASA 81 mg PO daily
   Lorazepam
   Reglan
   Advair
   Fentanyl Patch
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2168-12-7**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 75 (60 - 100) bpm
   BP: 120/52(71) {105/45(61) - 180/79(113)} mmHg
   RR: 16 (14 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    589 mL
                                                                    564 mL
   PO:
             TF:
                                                                     58 mL
                                                                    150 mL
   IVF:
                                                                    491 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  1,485 mL
                                                                    440 mL
   Urine:
                                                                  1,460 mL
                                                                    440 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                   -896 mL
                                                                    124 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   Vt (Set): 451 (450 - 451) mL
   Vt (Spontaneous): 509 (0 - 509) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Sao2 < 90%
   PIP: 38 cmH2O
   Plateau: 34 cmH2O
   Compliance: 17.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.49/45/65/34/9
   Ve: 10.2 L/min
   PaO2 / FiO2: 130
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Pupils dilated
   Head, Ears, Nose, Throat: trached
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases)
   Abdominal: Soft, Non-tender, PEG c/d/i
   Extremities: boots
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   172 K/uL
   9.8 g/dL
   119 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.7 mEq/L
   29 mg/dL
   101 mEq/L
   140 mEq/L
   29.4 %
   11.6 K/uL
        [image002.jpg]
                            [**2168-12-5**]  12:17 AM
                            [**2168-12-5**]  04:30 AM
                            [**2168-12-5**]  04:52 AM
                            [**2168-12-5**]  11:02 PM
                            [**2168-12-5**]  11:12 PM
                            [**2168-12-6**]  04:40 AM
                            [**2168-12-6**]  05:01 AM
                            [**2168-12-6**]  03:10 PM
                            [**2168-12-7**]  03:48 AM
                            [**2168-12-7**]  04:07 AM
   WBC
   10.5
   10.8
   11.6
   Hct
   28.1
   30.7
   29.4
   Plt
   [**Telephone/Fax (3) 4563**]
   Cr
   0.5
   0.5
   0.4
   0.5
   TCO2
   42
   41
   41
   39
   38
   35
   Glucose
   110
   121
   119
   119
   Other labs: PT / PTT / INR:12.7/43.8/1.1, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.5 %, Band:0.0 %, Lymph:4.4 %,
   Mono:5.7 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   This is an 80 year-old woman with a history of COPD, who presents as
   transfer from OSH following possible pneumonia and failure to extubate;
   now intubated x 12 days.
   # Respiratory Failure:  Likely [**1-16**] to COPD and flare of interstitial
   lung disease. No evidence of pulmonary infection. Unable to wean off
   vent so S/P trach yesterday, doing well.
   - daily wake up
   - Given appropriate oxygen saturation, plan to decrease peep from 8 to
   5
   - keep i/o even roughly
   - Taper steroids today and tomorrow 40 tid then decrease again
   # Episode of Hypotension/Bradycardia: Likely [**1-16**] mucous plugging
   -monitor closely
   -frequent suctioning.
   - monitor UOP- fluids for goal UOP >50cc/hr
   # Fluid Status: Goal I/O negative 500 rather than more given
   hypotension last night (though probably due to mucous plug)
   # Anemia:  stable at 28.1
   - Transfuse if under 21
   # FEN:  tube feeds as tolerated  once ok to use PEG.
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: unable to crush lipitor, holding.
   # Chronic Kidney Disease (Cr 0.4): improved from baseline.
   # Osteoporosis: hx of compression fractures:  No acute issues
   # GERD: PPI
   # Comm:  Daughter ([**First Name5 (NamePattern1) 619**] [**Name (NI) 4269**]).  HCP's are daughter'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 619**]
   ([**Telephone/Fax (1) 4270**]) and [**Doctor Last Name 376**] ([**Telephone/Fax (1) 4271**]).
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2168-12-6**] 06:13 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Protonix IV
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-07 11:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Best tolerates PCV mode
   (poor tolerance to IPS, SIMV, AC).
   Minimal secretions.
   More awake, appears more comfortable.
   Denies pain or dyspnea.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2168-12-6**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2168-12-6**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG
   tube, Tracheotomy tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2168-12-7**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.3
   HR: 69 (69 - 100) bpm
   BP: 94/49(61) {94/45(61) - 180/79(113)} mmHg
   RR: 15 (14 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    589 mL
                                                                    927 mL
   PO:
             TF:
                                                                     58 mL
                                                                    296 mL
   IVF:
                                                                    491 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  1,485 mL
                                                                    660 mL
   Urine:
                                                                  1,460 mL
                                                                    660 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                   -896 mL
                                                                    267 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   Vt (Set): 451 (450 - 451) mL
   Vt (Spontaneous): 509 (0 - 509) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Sao2 < 90%
   PIP: 40 cmH2O
   Plateau: 34 cmH2O
   Compliance: 17.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.49/45/65/34/9
   Ve: 7.4 L/min
   PaO2 / FiO2: 130
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   Good air movement
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.8 g/dL
   172 K/uL
   119 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.7 mEq/L
   29 mg/dL
   101 mEq/L
   140 mEq/L
   29.4 %
   11.6 K/uL
        [image002.jpg]
                            [**2168-12-5**]  12:17 AM
                            [**2168-12-5**]  04:30 AM
                            [**2168-12-5**]  04:52 AM
                            [**2168-12-5**]  11:02 PM
                            [**2168-12-5**]  11:12 PM
                            [**2168-12-6**]  04:40 AM
                            [**2168-12-6**]  05:01 AM
                            [**2168-12-6**]  03:10 PM
                            [**2168-12-7**]  03:48 AM
                            [**2168-12-7**]  04:07 AM
   WBC
   10.5
   10.8
   11.6
   Hct
   28.1
   30.7
   29.4
   Plt
   [**Telephone/Fax (3) 4563**]
   Cr
   0.5
   0.5
   0.4
   0.5
   TCO2
   42
   41
   41
   39
   38
   35
   Glucose
   110
   121
   119
   119
   Other labs: PT / PTT / INR:12.7/43.8/1.1, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.5 %, Band:0.0 %, Lymph:4.4 %,
   Mono:5.7 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Respiratory failure, acute and chronic.  ILD.
   RESPIRATORY FAILURE -- persistent.  s/p pneumonia.  Underlying ILD
   (?IPF vs. NSIP).  Perhaps recent component of pulmonary edema.
   Continue mechanical ventilation.  Maintain SaO2 >90%.  Consider repeat
   trial of change mode to IPS in anticipation of transfer to Rehab
   Facility.
   ILD -- no further therapy available.  Concern for NSIP
 continue
   steroids
 taper.  Consider repeat CT scan as F/U to infiltrates.
   HYPOTENSION
 related to bradycardia.  Resolved.
   BRADYCARDIA
 attributed to mucous plug.  Resolved.  Monitor HR.
   FLUIDS -- euvolemic.  monitor I/O.  Maintain balance.
   NUTRITIONAL SUPPORT
 continue TF via PEG today.
   HYPOTENSION -- resolved.  Monitor.
   PAIN MANAGEMENT
 transition from iv to PO or topical regimen, and
   overal taper towards D/C.
   ANEMIA -- stable.  ACD.
   DISPOSITION
 screening for ventilator rehab placement.
   WEAKNESS -- ?steroid related.  PT consult.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2168-12-6**] 06:13 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2168-12-08 07:32:00 Physician Resident Progress Note
Chief Complaint: 80 yo F with COPD and ILD presents from OSH with
   respiratory failure and failure to extubate.
   24 Hour Events:
   - attempted PS trial => unable to coordinate with vent => back to PC.
   - continued weaning sedation
   - Pt hypertensive, tachycardic, tachypnic on PC this AM, resolved with
   mucous suctioning, increased PEEP, and increased sedation.
   - has bed at [**Hospital1 997**] [**Location (un) 23**] per case management (re-eval on
   Friday/Monday to see if she can go).
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-12-7**] 08:36 AM
   Heparin Sodium (Prophylaxis) - [**2168-12-8**] 12:15 AM
   Other medications:
   Lactulose 30 PO BID:PRN
   Solumedrol 40 mg IV BID
   Combivent 2 puffs q6H
   Reglan 10 mg IV q6H
   Colace
   Tylenol
   Senna
   ASA 81 mg pO daily
   Levothyroxine 25 mcg PO daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-8**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.1
C (96.9
   HR: 88 (69 - 113) bpm
   BP: 161/69(96) {94/45(61) - 172/83(111)} mmHg
   RR: 21 (10 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,775 mL
                                                                    449 mL
   PO:
             TF:
                                                                    857 mL
                                                                    331 mL
   IVF:
                                                                    493 mL
                                                                    118 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                    640 mL
   Urine:
                                                                  1,365 mL
                                                                    640 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                    400 mL
                                                                   -191 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   Vt (Spontaneous): 403 (403 - 486) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   SpO2: 94%
   ABG: 7.47/48/99.[**Numeric Identifier 508**]/33/9
   Ve: 10.4 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Pupils dilated
   Head, Ears, Nose, Throat: PEG
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   149 K/uL
   9.3 g/dL
   153 mg/dL
   0.5 mg/dL
   33 mEq/L
   4.2 mEq/L
   30 mg/dL
   102 mEq/L
   140 mEq/L
   27.8 %
   12.6 K/uL
        [image002.jpg]
                            [**2168-12-5**]  11:02 PM
                            [**2168-12-5**]  11:12 PM
                            [**2168-12-6**]  04:40 AM
                            [**2168-12-6**]  05:01 AM
                            [**2168-12-6**]  03:10 PM
                            [**2168-12-7**]  03:48 AM
                            [**2168-12-7**]  04:07 AM
                            [**2168-12-7**]  05:34 PM
                            [**2168-12-8**]  04:15 AM
                            [**2168-12-8**]  04:24 AM
   WBC
   10.8
   11.6
   12.6
   Hct
   30.7
   29.4
   27.8
   Plt
   180
   172
   149
   Cr
   0.5
   0.4
   0.5
   0.5
   TCO2
   41
   39
   38
   35
   35
   36
   Glucose
   121
   119
   119
   153
   Other labs: PT / PTT / INR:12.7/42.0/1.1, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.5 %, Band:0.0 %, Lymph:4.4 %,
   Mono:5.7 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   # Respiratory Failure:  Likely [**1-16**] to COPD and flare of interstitial
   lung disease. No evidence of pulmonary infection on sputum cultures,
   but appeared to have multiple secretions and agitated this AM,
   defintitely at risk for aspiration. s/p trach, unable to be changed
   from PC to PS. Unlikely PE (has been anticoagulated)
   - PS trial with elevated driving pressures of 25
   - send endotracheal aspirate for sputum GS and cx
   - wean sedation (fentanyl to patch, versed to IV valium)
   - decreased solumedrol to 40 mg PO BID.
   # Fluid Status: Goal I/O goal even
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: unable to crush lipitor, holding.
   # Chronic Kidney Disease: stable
   # Osteoporosis: hx of compression fractures:  No acute issues
   # GERD: PPI
   # Mobilization: PT consulted, will return at later date once patient
   more appropriate.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2168-12-8**] 01:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: in ICU while on ventilator/PC. Has bed at [**Hospital1 997**] for
   either Fri/Mon if ventilator change to PS with elevated driving
   pressures is successful.

2168-12-09 08:32:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
   -Family meeting with dtrs and husband- pt is now DNR with no major
   procedures. Family coming in evening [**12-9**] or am [**12-10**] and likely to
   make CMO then
   -Ordered 20 Lasix for gentle diuresis
   -On fentanyl and versed gtt's for comfort
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2168-12-8**] 04:15 PM
   Midazolam (Versed) - [**2168-12-8**] 10:00 PM
   Pantoprazole (Protonix) - [**2168-12-9**] 07:46 AM
   Heparin Sodium (Prophylaxis) - [**2168-12-9**] 07:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-9**] 08:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.1
   HR: 85 (82 - 104) bpm
   BP: 119/53(71) {99/49(62) - 161/99(105)} mmHg
   RR: 14 (12 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,860 mL
                                                                    617 mL
   PO:
             TF:
                                                                  1,083 mL
                                                                    167 mL
   IVF:
                                                                    377 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  2,325 mL
                                                                    420 mL
   Urine:
                                                                  2,325 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -465 mL
                                                                    197 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 589 (522 - 602) mL
   PS : 21 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 34 cmH2O
   SpO2: 95%
   ABG: 7.43/57/141/36/11
   Ve: 7.7 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   159 K/uL
   9.8 g/dL
   143 mg/dL
   0.4 mg/dL
   36 mEq/L
   4.3 mEq/L
   29 mg/dL
   94 mEq/L
   134 mEq/L
   29.1 %
   13.8 K/uL
        [image002.jpg]
                            [**2168-12-6**]  05:01 AM
                            [**2168-12-6**]  03:10 PM
                            [**2168-12-7**]  03:48 AM
                            [**2168-12-7**]  04:07 AM
                            [**2168-12-7**]  05:34 PM
                            [**2168-12-8**]  04:15 AM
                            [**2168-12-8**]  04:24 AM
                            [**2168-12-8**]  08:30 AM
                            [**2168-12-9**]  05:00 AM
                            [**2168-12-9**]  05:12 AM
   WBC
   11.6
   12.6
   13.8
   Hct
   29.4
   27.8
   29.1
   Plt
   172
   149
   159
   Cr
   0.5
   0.5
   0.4
   TCO2
   39
   38
   35
   35
   36
   36
   39
   Glucose
   119
   153
   143
   Other labs: PT / PTT / INR:12.2/30.4/1.0, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.5 %, Band:0.0 %, Lymph:4.4 %,
   Mono:5.7 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   This is an 80 year-old woman with a history of COPD, who presents as
   transfer from after failure to extubate; intubated x 13 days.
   # Respiratory Failure:  Likely [**1-16**] to COPD and flare of interstitial
   lung disease. No evidence of pulmonary infection on sputum cultures.
   s/p trach, unable to change over to AC/SIMV, so returned to PC.
   - PS trial
   - wean sedation (fentanyl to patch, versed to valium)
   - continue solumedrol at 40 IV TID, continue taper tomorrow
   # Episode of Hypotension/Bradycardia: Likely [**1-16**] mucous plugging
   -monitor closely
   -frequent suctioning.
   -I/O goal even today.
   # Fluid Status: Goal I/O goal even w/ recheck in PM for consideration
   to Lasix administration.
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: unable to crush lipitor, holding.
   # Chronic Kidney Disease: stable
   # Osteoporosis: hx of compression fractures:  No acute issues
   # GERD: PPI
   # Mobilization: PT consult
   # Comm:  Daughter ([**First Name5 (NamePattern1) 619**] [**Name (NI) 4269**]).  HCP's are daughter'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 619**]
   ([**Telephone/Fax (1) 4270**]) and [**Doctor Last Name 376**] ([**Telephone/Fax (1) 4271**]).
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2168-12-9**] 05:00 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2168-12-09 10:42:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via tracheotomy tube.
   Remains on Versed, Fentanyl.
   Remains on IPS mode.
   Developed crepitus (subcutaneous emphysema).
   Following family meeting discussion now DNR and with focus on comfort.
   Awaiting decision regarding desire or not to transfer to rehab
   facility.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2168-12-8**] 04:15 PM
   Midazolam (Versed) - [**2168-12-8**] 10:00 PM
   Pantoprazole (Protonix) - [**2168-12-9**] 07:46 AM
   Heparin Sodium (Prophylaxis) - [**2168-12-9**] 07:46 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2168-12-9**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.1
   HR: 82 (82 - 102) bpm
   BP: 104/48(64) {99/48(62) - 161/99(105)} mmHg
   RR: 14 (12 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,860 mL
                                                                    689 mL
   PO:
             TF:
                                                                  1,083 mL
                                                                    206 mL
   IVF:
                                                                    377 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  2,325 mL
                                                                    560 mL
   Urine:
                                                                  2,325 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -465 mL
                                                                    129 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 589 (522 - 602) mL
   PS : 21 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 34 cmH2O
   SpO2: 96%
   ABG: 7.43/57/141/36/11
   Ve: 7.7 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, crepitus over right ant
   chest and should
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.8 g/dL
   159 K/uL
   143 mg/dL
   0.4 mg/dL
   36 mEq/L
   4.3 mEq/L
   29 mg/dL
   94 mEq/L
   134 mEq/L
   29.1 %
   13.8 K/uL
        [image002.jpg]
                            [**2168-12-6**]  05:01 AM
                            [**2168-12-6**]  03:10 PM
                            [**2168-12-7**]  03:48 AM
                            [**2168-12-7**]  04:07 AM
                            [**2168-12-7**]  05:34 PM
                            [**2168-12-8**]  04:15 AM
                            [**2168-12-8**]  04:24 AM
                            [**2168-12-8**]  08:30 AM
                            [**2168-12-9**]  05:00 AM
                            [**2168-12-9**]  05:12 AM
   WBC
   11.6
   12.6
   13.8
   Hct
   29.4
   27.8
   29.1
   Plt
   172
   149
   159
   Cr
   0.5
   0.5
   0.4
   TCO2
   39
   38
   35
   35
   36
   36
   39
   Glucose
   119
   153
   143
   Other labs: PT / PTT / INR:12.2/30.4/1.0, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.5 %, Band:0.0 %, Lymph:4.4 %,
   Mono:5.7 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Respiratory failure, acute and chronic.  ILD.
   RESPIRATORY FAILURE -- persistent.  s/p pneumonia.  Underlying ILD
   (?IPF vs. NSIP).  Perhaps recent component of pulmonary edema.
   Continue IPS mechanical ventilation.  Maintain SaO2 >90%.
   ILD -- no further therapy available.  Concern for NSIP
 continue
   steroids
 taper.  Consider repeat CT scan as F/U to infiltrates.
   HYPOTENSION
 related to bradycardia.  Resolved.
   BRADYCARDIA
 attributed to mucous plug.  Resolved.  Monitor HR.
   FLUIDS -- euvolemic.  monitor I/O.  Maintain balance.
   NUTRITIONAL SUPPORT
 TF via PEG.
   HYPOTENSION -- resolved.  Monitor.
   PAIN MANAGEMENT
 transition from iv to PO or topical regimen, and
   overal taper towards D/C.
   ANEMIA -- stable.  ACD.
   DISPOSITION
 screening for ventilator rehab placement.
   WEAKNESS -- ?steroid related.  PT consult.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2168-12-9**] 05:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   ------ Protected Section ------
    MICU Attending Addendum:
   Family meeting (including husband and daughters).  Extensive
   discussion, updated medical condition and answered all questions.  All
   family members recognize limited progress over past weeks of
   hospitalization, and unlikely recovery over immediate future.   All
   clearly state that pt. althoug
fighter
 would not want prolonged
   support if limited chance of recovery to functional state.  All in
   agreement that in the event of acute cardiac decompensation no
   resussitation is desired (ie. DNR).  At this time, plan to continue
   current level of care & support (ie. No escalation) with particular
   focus on comfort, without desire to escalate in the event of clinical
   worsening (ex. No chest tube if barrotrauma or pneumothorax).  If
   limited progress over next few days, family may consider further
   withdrawal of current level of care.  Will reassess on daily basis.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2168-12-9**] 18:46 ------

2168-12-10 08:07:00 Physician Resident Progress Note
Chief Complaint: 80 yo F with ILD and COPD p/w respiratory distress and
   failure to extubate.
   24 Hour Events:
   -Back on PS->did well
   -family meeting today for ?CMO-> Dr. [**Last Name (STitle) **] met for a long time.  They
   want no escalation in care-no chest tubes, no chest compression, and
   they want increase pain meds if she is uncomfortable even if it drops
   her pressure.  Will re-assess in 2 days to assess progress, if none
   will likely make CMO.
   -plan to decrease steroids to 20BID tomorrow
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2168-12-9**] 11:45 AM
   Heparin Sodium (Prophylaxis) - [**2168-12-10**] 12:28 AM
   Fentanyl - [**2168-12-10**] 05:15 AM
   Other medications:
   Insulin sliding scale
   Lactulose
   Solumedtrol 40  IV q12H
   Combivent nebs
   Reglan 10 mg IV q6H
   Protonix
   ASA 81 mg PO daily
   Levothyroxine 25 mcg PO daily
   Tylenol
   Colace
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-10**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 84 (79 - 103) bpm
   BP: 111/48(66) {101/48(62) - 157/76(101)} mmHg
   RR: 13 (13 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,248 mL
                                                                    313 mL
   PO:
             TF:
                                                                    492 mL
                                                                    182 mL
   IVF:
                                                                    456 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                    430 mL
   Urine:
                                                                  1,260 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -12 mL
                                                                   -117 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 403 (403 - 579) mL
   PS : 21 cmH2O
   RR (Spontaneous): 14
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 34 cmH2O
   SpO2: 97%
   ABG: 7.42/57/116/35/10
   Ve: 6.4 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: Thin, Anxious
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : ), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, PEG c/d/i
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   152 K/uL
   9.5 g/dL
   125 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.3 mEq/L
   30 mg/dL
   97 mEq/L
   136 mEq/L
   28.1 %
   9.1 K/uL
        [image002.jpg]
                            [**2168-12-7**]  03:48 AM
                            [**2168-12-7**]  04:07 AM
                            [**2168-12-7**]  05:34 PM
                            [**2168-12-8**]  04:15 AM
                            [**2168-12-8**]  04:24 AM
                            [**2168-12-8**]  08:30 AM
                            [**2168-12-9**]  05:00 AM
                            [**2168-12-9**]  05:12 AM
                            [**2168-12-10**]  03:00 AM
                            [**2168-12-10**]  03:36 AM
   WBC
   11.6
   12.6
   13.8
   9.1
   Hct
   29.4
   27.8
   29.1
   28.1
   Plt
   172
   149
   159
   152
   Cr
   0.5
   0.5
   0.4
   0.4
   TCO2
   35
   35
   36
   36
   39
   38
   Glucose
   119
   153
   143
   125
   Other labs: PT / PTT / INR:11.9/29.9/1.0, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.5 %, Band:0.0 %, Lymph:4.4 %,
   Mono:5.7 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Microbiology: [**12-6**] sputum (yeast) - on GS and culture
   Assessment and Plan
   This is an 80 year-old woman with a history of COPD, who presents as
   transfer from after failure to extubate; intubated x 14 days.
   # Respiratory Failure:  Likely [**1-16**] to mild  COPD and flare of severe
   interstitial lung disease. No evidence of pulmonary infection on sputum
   cultures. s/p trach, currently stable on PS with elevated driving
   pressures (21).
   - on fentanyl boluses for sedation
   - tapering solumedrol to 20 mg IV BID today.
   # Fluid Status: Goal I/O even today. No further escalation fo care.
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: unable to crush lipitor, holding.
   # Osteoporosis: hx of compression fractures:  No acute issues
   # GERD: PPI
   # Mobilization:  no plans for rehab at this time.
   # Comm:  Daughter ([**First Name5 (NamePattern1) 619**] [**Name (NI) 4269**]).  HCP's are daughter'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 619**]
   ([**Telephone/Fax (1) 4270**]) and [**Doctor Last Name 376**] ([**Telephone/Fax (1) 4271**]).
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2168-12-10**] 03:00 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments: no escalation of care, no
   chest compressions, no chest tubes, increase in pain meds, re-eval in 2
   days for ?CMO status
   Code status: DNR/DNI
   Disposition: no longer for rehab. Pending family meeting/re-eval in
   next few days.
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 80 yo F with COPD, ILD, [**Hospital **] transferred from
   OSH for management of respiratory failure. Course c/b failed
   extubation, failure to wean, s/p course of high dose steroids for ? ILD
   flare to which there was little response, now s/p trach and PEG
   placement [**12-5**].
     Has tolerated transition to PSV though continues to require full
   support with elevated driving pressure and high PEEP.  Family mtg
   yesterday resulted in change in code status to DNR/DNI with no further
   escalation of care.
   Exam notable for Tm 98.8  BP 111/48  HR 84  RR 13-14 on  PS 21/12/60%.
   TVs 400's/Sat 97% --> 7.42/57/116
   Awake alert F, slightly tachypneic on vent, rales b/l, sym chest wall
   excursion, RR, + BS, soft, NT abd, warm ext
   Labs notable for WBC 9.1, HCT 28 , plt 152  na 136, K+ 4.3 , Cr 0.4,
   coags wnl
   CXR
underpenetrated, diffuse b/l ILD essentially unchanged
   Micro
sputum + yeast, no additional new data
   80 yo F with h/o COPD, ILD, [**Hospital **] transferred from OSH for management of
   respiratory failure in setting of advanced ILD.
   Primary issues include:
     * Resp failure
acute on chronic
     ILD (IPF, less likely NSIP given poor response to high dose steroids,
   continuing steroid taper, s/p treatment for pna and diuresis for pulm
   edema component)
     * COPD (without acute exac)
     * Anemia (stable)
     * Weakness (? Steroid related)
   Agree with plan to continue current supportive care.  Continue PSV.
   Oxygenation is adequate with PEEp 12 and FIO2 60% , mdis.  Continue
   steroid taper. Continue pain control/sedation as needed.  ICU
   prophylaxis.  SSI and fixed insulin while on steroids.  Continue to
   updatefamily and address goals of care.  Consider palliative care
   consult for additional family support.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2168-12-10**] 03:46 PM ------

2168-12-11 08:03:00 Physician Resident Progress Note
Chief Complaint: 80 yo F with COPD, ILD admitted to ICU with ILD flair
   and failure to extubate.
   24 Hour Events:
   -continued PS at 21.
   -steroids decreased to solumedrol 20 [**Hospital1 7**]
   -currently DNR/DNI with no escalation of care
   -fam will re-assess progress to decide if needs CMO status (pt does not
   wish to indefinitely remain on vent)
   Patient unable to provide history: no PM valve on trach
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-12-10**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2168-12-10**] 04:00 PM
   Other medications:
   Solumedrol 20 mg IV q12H
   ISS
   Lactulose
   Combivent nebs
   Reglan
   Colace
   Senna
   Tylenol
   ASA 81 PO daily
   levothyroxine 25 mcg PO daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-11**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 87 (77 - 105) bpm
   BP: 129/55(338) {95/44(58) - 170/161(338)} mmHg
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,291 mL
                                                                    452 mL
   PO:
             TF:
                                                                    685 mL
                                                                    305 mL
   IVF:
                                                                    427 mL
                                                                    147 mL
   Blood products:
   Total out:
                                                                    835 mL
                                                                    590 mL
   Urine:
                                                                    835 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    456 mL
                                                                   -138 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 531 (449 - 580) mL
   PS : 21 cmH2O
   RR (Spontaneous): 22
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   SpO2: 96%
   ABG: 7.44/55/135/38/11
   Ve: 11.1 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, PEG c/d/i
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   151 K/uL
   9.0 g/dL
   192
   0.3 mg/dL
   38 mEq/L
   4.2 mEq/L
   24 mg/dL
   99 mEq/L
   141 mEq/L
   28.0 %
   11.6 K/uL
        [image002.jpg]
                            [**2168-12-8**]  04:24 AM
                            [**2168-12-8**]  08:30 AM
                            [**2168-12-9**]  05:00 AM
                            [**2168-12-9**]  05:12 AM
                            [**2168-12-10**]  03:00 AM
                            [**2168-12-10**]  03:36 AM
                            [**2168-12-10**]  12:00 PM
                            [**2168-12-11**]  04:20 AM
                            [**2168-12-11**]  04:29 AM
                            [**2168-12-11**]  06:00 AM
   WBC
   13.8
   9.1
   11.6
   Hct
   29.1
   28.1
   28.0
   Plt
   159
   152
   151
   Cr
   0.4
   0.4
   0.3
   TCO2
   36
   36
   39
   38
   39
   Glucose
   143
   125
   137
   142
   192
   Other labs: PT / PTT / INR:11.9/29.9/1.0, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.5 %, Band:0.0 %, Lymph:4.4 %,
   Mono:5.7 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   This is an 80 year-old woman with a history of COPD, who presents as
   transfer from after failure to extubate; intubated x 15 days.
   # Respiratory Failure:  Likely [**1-16**] to mild  COPD and flare of severe
   interstitial lung disease. No evidence of pulmonary infection on sputum
   cultures. s/p trach, currently stable on PS with elevated driving
   pressures (21).
   - on fentanyl boluses for sedation
   - cont solumedrol at 20 mg IV BID, taper to 10 mg IV BID tomorrow
   - palliative care consult
   - family meeting to discuss goals of care/CMO status in a few days.
   # Fluid Status: Goal I/O even today. No further escalation fo care.
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: unable to crush lipitor, holding.
   # Osteoporosis: hx of compression fractures:  No acute issues
   # GERD: PPI
   # Mobilization:  no plans for rehab at this time.
   # Comm:  Daughter ([**First Name5 (NamePattern1) 619**] [**Name (NI) 4269**]).  HCP's are daughter'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 619**]
   ([**Telephone/Fax (1) 4270**]) and [**Doctor Last Name 376**] ([**Telephone/Fax (1) 4271**]).
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI with no escalation of current care
   Disposition:In ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
    I saw and examined the patient, and was physically present with the
   ICU team for the key portions of the services provided. I agree with
   the note above, including the assessment and plan. I would emphasize
   and add the following points: 80 yo F with COPD, ILD, pHTN transferred
   from OSH for management of respiratory failure. Course c/b failed
   extubation, failure to wean, s/p course of high dose steroids for ? ILD
   flare to which there was little response, now s/p trach and PEG
   placement [**12-5**].
     Remains on PSV though continues to require full support with elevated
   driving pressure and moderate PEEP.  Per recent family mtg pt's code
   status changed to DNR/DNI with no further escalation of care.
   Exam notable for Tm 98.7  BP 129/55  HR 87  RR 22on  PS 21/12/60%. TVs
   500's/Sat 96% --> 7.44/55/135
   Awake alert F, slightly tachypneic on vent, but in NAD, rales b/l, sym
   chest wall excursion, RR, + BS, soft, NT abd, warm ext
   Labs notable for WBC 11.6, HCT 28 , plt 151  na 141, K+ 4.2, Cr 0.3,
   coags wnl, glu 192
   CXR
 trach in airway, no change, film cut-off
   Micro
sputum + yeast, no additional new data
   80 yo F with h/o COPD, ILD, [**Hospital **] transferred from OSH for management of
   respiratory failure in setting of advanced ILD.
   Primary issues include:
     * Resp failure
acute on chronic
           ILD (IPF, less likely NSIP given poor response to high dose
   steroids, continuing steroid taper, s/p treatment for pna and diuresis
   for pulm edema component)
     * COPD (without acute exac)
     * Anemia (stable)
     * Weakness (? Steroid related)
   Agree with plan to continue current supportive care.  Remains on PSV.
   Oxygenation is adequate with PEEP 12 and were able to wean FIO2 from 60
   to 50.  Continue mdis and steroid taper. Continue pain control/sedation
   as needed.  ICU prophylaxis.  SSI and fixed insulin while on steroids
   with good BS control.  Continue to update family and address goals of
   care. Palliative care consult may be helpful for family--will consult
   Monday.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2168-12-11**] 13:58 ------

2168-12-12 07:27:00 Physician Resident Progress Note
Chief Complaint: 80 yo F with ILD admitted with ILD flare and  failure
   to extubate.
   24 Hour Events:
   -Dtr [**Name (NI) 619**] (HCP) thinks pt is improving and communicating well with
   family and would like to continue to explore options for weaning from
   [**Name (NI) 494**] slowly- will need to discuss this on am rounds
   - Palliative care consult ordered for the am
   - IV PPI changed to oral disintigrating tab
   History obtained from Patient
   Patient unable to provide history: no PM valve
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-12-12**] 12:10 AM
   Other medications:
   Solumedrol 20 IV q12H
   Lactulose
   Combivent nebs
   Reglan
   Colace
   Tylenol
   ASA 81 mg PO daily
   Levothyroxine 25 mcg PO daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-12**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 82 (74 - 97) bpm
   BP: 149/96(66) {85/42(61) - 186/151(163)} mmHg
   RR: 18 (11 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,031 mL
                                                                    482 mL
   PO:
             TF:
                                                                  1,077 mL
                                                                    195 mL
   IVF:
                                                                    444 mL
                                                                    137 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    630 mL
   Urine:
                                                                  1,390 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    641 mL
                                                                   -148 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 477 (309 - 568) mL
   PS : 21 cmH2O
   RR (Spontaneous): 26
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 35 cmH2O
   SpO2: 98%
   ABG: 7.46/51/95.[**Numeric Identifier 143**]/35/10
   Ve: 12.2 L/min
   PaO2 / FiO2: 192
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: )
   Extremities: has boots on
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   156 K/uL
   9.5 g/dL
   121 mg/dL
   0.3 mg/dL
   35 mEq/L
   4.2 mEq/L
   23 mg/dL
   97 mEq/L
   137 mEq/L
   29.0 %
   10.3 K/uL
        [image002.jpg]
                            [**2168-12-9**]  05:00 AM
                            [**2168-12-9**]  05:12 AM
                            [**2168-12-10**]  03:00 AM
                            [**2168-12-10**]  03:36 AM
                            [**2168-12-10**]  12:00 PM
                            [**2168-12-11**]  04:20 AM
                            [**2168-12-11**]  04:29 AM
                            [**2168-12-11**]  06:00 AM
                            [**2168-12-12**]  04:05 AM
                            [**2168-12-12**]  04:10 AM
   WBC
   13.8
   9.1
   11.6
   10.3
   Hct
   29.1
   28.1
   28.0
   29.0
   Plt
   159
   152
   151
   156
   Cr
   0.4
   0.4
   0.3
   0.3
   TCO2
   39
   38
   39
   37
   Glucose
   143
   125
   137
   142
   192
   121
   Other labs: PT / PTT / INR:11.9/29.9/1.0, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.5 %, Band:0.0 %, Lymph:4.4 %,
   Mono:5.7 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.1 mg/dL, Mg++:1.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   This is an 80 year-old woman with a history of COPD, who presents as
   transfer from after failure to extubate; intubated x 16 days.
   # Respiratory Failure:  Likely [**1-16**] to mild  COPD and flare of severe
   interstitial lung disease. No evidence of pulmonary infection on sputum
   cultures. s/p trach, currently stable on PS with elevated driving
   pressures (21). Goals of care have changed per HCP, want to work
   towards weaning ventilation and sedation.
   - fam meeting to clarify goals of care
   - on fentanyl boluses for sedation. If family wishes to wean [**Last Name (LF) 494**], [**First Name3 (LF) **]
   need sedation wean (fentanyl IV to patch, versed to IV ativan or
   valium)
   - tapered solumedrol to 10 mg IV BID
   - decrease FiO2 to .4 and possibly PEEP today. Attempt to decrease PS
   tommorow to pull smaller tidal volumes and help correct respiratory
   alkalosis.
   # NSVT: One episode of NSVt. Mg 1.2. Hemodynamically stable.
   - continue telemetry
   - replete lytes mg > 2 k > 4 with PM lyte check
   - patient is currently DNR
   # LUE edema: likely related to A-line. Has been on ppx heparin, but
   must r/o DVT.
   - LUE U/S today
   .
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: unable to crush lipitor, holding.
   # Osteoporosis: hx of compression fractures:  No acute issues
   # GERD: PPI
   # Mobilization: re-consult PT.discuss rehab with family. Possible neuro
   consult if goals of care have changed.
   # Comm:  Daughter ([**First Name5 (NamePattern1) 619**] [**Name (NI) 4269**]).  HCP's are daughter'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 619**]
   ([**Telephone/Fax (1) 4270**]) and [**Doctor Last Name 376**] ([**Telephone/Fax (1) 4271**]).
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI with no escalation of care.
   Disposition: in ICU

2168-12-13 07:48:00 Physician Resident Progress Note
Chief Complaint: 80 yo F with COPD and ILD p/w ILD flare and failure to
   extubate.
   24 Hour Events:
   - Met with family briefly to arranage a meeting for afternoon of [**12-13**].
   Patient's family has specific questions about process of ventilator
   liberation
   - Patient was unsuccessfully tried on decreased FiO2 of 40%, had to be
   placed on pre-trial FiO2 of 50%, also was switched from PS to PC mode
   of ventilation
   - Evening chest xray appeared unchanged from prior with no explanation
   for inability to decrease FiO2 and increased pressure support
   requirement
   - Steroids were decreased to 10 mg [**Hospital1 7**]
   - LUE extremity swelling noted in morning rounds and LUE U/S performed
   with final read pending
   Patient unable to provide history: no PM valve
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 0.7 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-12-12**] 11:30 PM
   Midazolam (Versed) - [**2168-12-13**] 05:05 AM
   Fentanyl - [**2168-12-13**] 05:05 AM
   Other medications:
   Solumedrol 10 IV q12H
   Insulin sliding scale
   Lactulose
   Reglan
   Colace
   Tylenol
   Senna
   ASA 81 mg PO daily
   Levothyroxine 25 mcg PO daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-13**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 94 (81 - 106) bpm
   BP: 177/134(149) {96/52(70) - 180/167(318)} mmHg
   RR: 20 (17 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,092 mL
                                                                    571 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    301 mL
   IVF:
                                                                    412 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    435 mL
   Urine:
                                                                  1,435 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    657 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   Vt (Spontaneous): 532 (414 - 532) mL
   PS : 21 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   SpO2: 92%
   ABG: 7.48/48/84.[**Numeric Identifier 1000**]/35/10
   Ve: 13.4 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, trach and PEG
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   147 K/uL
   8.9 g/dL
   120 mg/dL
   0.3 mg/dL
   35 mEq/L
   4.0 mEq/L
   23 mg/dL
   94 mEq/L
   132 mEq/L
   26.7 %
   8.6 K/uL
        [image002.jpg]
                            [**2168-12-10**]  03:36 AM
                            [**2168-12-10**]  12:00 PM
                            [**2168-12-11**]  04:20 AM
                            [**2168-12-11**]  04:29 AM
                            [**2168-12-11**]  06:00 AM
                            [**2168-12-12**]  04:05 AM
                            [**2168-12-12**]  04:10 AM
                            [**2168-12-12**]  06:24 PM
                            [**2168-12-13**]  03:15 AM
                            [**2168-12-13**]  06:41 AM
   WBC
   11.6
   10.3
   8.6
   Hct
   28.0
   29.0
   26.7
   Plt
   151
   156
   147
   Cr
   0.3
   0.3
   0.3
   0.3
   TCO2
   38
   39
   37
   37
   Glucose
   137
   142
   192
   121
   134
   120
   Other labs: PT / PTT / INR:11.9/29.9/1.0, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.5 %, Band:0.0 %, Lymph:4.4 %,
   Mono:5.7 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   MRSA Screen: pending
   [**12-8**] sputum: yeast and OP flora in cx
   Assessment and Plan
   This is an 80 year-old woman with a history of COPD, who presents as
   transfer from after failure to extubate; intubated x 16 days.
   # Respiratory Failure:  Likely [**1-16**] to mild  COPD and flare of severe
   interstitial lung disease. No evidence of pulmonary infection on sputum
   cultures. s/p trach. Unable to wean off FiO2 yesterday on PS, required
   change of VS to PC. Family meeting today, family understands that
   patient prognosis is poor and patient is DNR with no further lines or
   pressors, but they still wish to work towards rehab and chronic vent
   weaning. Patient is quite weak and may have some neuromuscular etiology
   contributing to her respiratory failure, possible due to long ICU
   admission/deconditioning versus steroid myopathy.
   - attempt to change vent settings over to PS prior to going to rehab
   - sedation wean once stable on PS vent settings (fentanyl IV to patch,
   versed to IV ativan or valium)
   - changed solumedrol to PO prednisone 10 mg daily.
   - PT consult
   - possible neuro consult to assess for steroid myopathy
   - palliative care involved
   # NSVT: No further episodes of NSVT once electrolytes repleted.
   - continue telemetry
   - replete lytes mg > 2 k > 4 w/ daily lyes check.
   - patient is currently DNR
   # LUE edema: likely related to A-line. Has been on ppx heparin. No
   evidence of DVT on LUE U/S.
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: unable to crush lipitor, holding.
   # Osteoporosis: hx of compression fractures:  No acute issues
   # GERD: PPI
   # Comm:  Daughter ([**First Name5 (NamePattern1) 619**] [**Name (NI) 4269**]).  HCP's are daughter'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 619**]
   ([**Telephone/Fax (1) 4270**]) and [**Doctor Last Name 376**] ([**Telephone/Fax (1) 4271**]).
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2168-12-13**] 05:00 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: In ICU, will need rehab screen again.

2168-12-14 07:53:00 Physician Resident Progress Note
Chief Complaint: 80 yo F with ILD p/w ILD flare and failure to
   extubate.
   24 Hour Events:
   - family meeting => family wishes for patient to remain DNR (no further
   lines or pressors if she becomes septic), but wish to work towards
   ventilator weaning and rehabilitation.
   - rpt ABG with pO2 down to 60s (7.48/48/84 => 7.48/45/63) on unchanged
   vent settings: increased PEEP from 12->15, rpt abg with more
   respiratory alkalosis and no change in pO2 (7.51/43/61/ => increased
   FiO2 to 60%), consider decreasing PIPs to pull less tidal volume and RR
   to lessen VE.
   - LUE U/S negative for DVT
   - has flaccid LLE with decreased brachial reflexes (per PT and intern
   exam) => likely LMN derangement c/w steroid myopathy. Unable to send pt
   to CT on current vent settings. will need neuro consult in AM to assess
   for ?steroid myopathy.
   - 500 cc bolus x1 for tachycardia to 115 => no improvement.
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2168-12-13**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2168-12-14**] 12:00 AM
   Midazolam (Versed) - [**2168-12-14**] 01:00 AM
   Fentanyl - [**2168-12-14**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-14**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 108 (86 - 115) bpm
   BP: 141/131(0) {108/51(0) - 233/228(284)} mmHg
   RR: 26 (13 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  2,673 mL
                                                                    500 mL
   PO:
             TF:
                                                                  1,035 mL
                                                                    352 mL
   IVF:
                                                                    907 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                    907 mL
                                                                    150 mL
   Urine:
                                                                    907 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,766 mL
                                                                    350 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   Vt (Spontaneous): 349 (349 - 349) mL
   PC : 35 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   SpO2: 96%
   ABG: 7.42/48/110/29/5
   Ve: 11.5 L/min
   PaO2 / FiO2: 183
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, PEG c/d/i
   Extremities: Right: 2+, Left: 2+, LUE flaccid 1+ reflexes (brachial)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   158 K/uL
   8.8 g/dL
   146 mg/dL
   0.4 mg/dL
   29 mEq/L
   3.9 mEq/L
   28 mg/dL
   97 mEq/L
   136 mEq/L
   26.3 %
   13.4 K/uL
        [image002.jpg]
                            [**2168-12-11**]  04:29 AM
                            [**2168-12-11**]  06:00 AM
                            [**2168-12-12**]  04:05 AM
                            [**2168-12-12**]  04:10 AM
                            [**2168-12-12**]  06:24 PM
                            [**2168-12-13**]  03:15 AM
                            [**2168-12-13**]  06:41 AM
                            [**2168-12-13**]  03:02 PM
                            [**2168-12-13**]  05:48 PM
                            [**2168-12-14**]  03:00 AM
   WBC
   10.3
   8.6
   13.4
   Hct
   29.0
   26.7
   26.3
   Plt
   156
   147
   158
   Cr
   0.3
   0.3
   0.3
   0.4
   TCO2
   39
   37
   37
   34
   36
   32
   Glucose
   192
   121
   134
   120
   146
   Other labs: PT / PTT / INR:11.9/29.9/1.0, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.5 %, Band:0.0 %, Lymph:4.4 %,
   Mono:5.7 %, Eos:0.4 %, Lactic Acid:0.6 mmol/L, Albumin:2.8 g/dL,
   Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   This is an 80 year-old woman with a history of COPD, who presents as
   transfer from after failure to extubate; intubated x 16 days.
   # Hypotension and tachycardia: Most likely [**1-16**] sepsis (fever to 101,
   leukocytosis, CXR with new infiltrates at RML, tachycardia) bordering
   on severe sepsis given low U/O (<30 ccs/hr x2 hrs), increasing hypoxia
   on ABG, and altered MS. [**First Name (Titles) **] [**Last Name (Titles) 4713**] include auto-PEEP (given
   increase in PEEP yesterday and tachynpea), PE (less likely as had
   sufficient DVT ppx), and adrenal insufficiency given her long steroid
   taper.
   -          Aggressive 1L NS IVF boluses
   -          blood, urine, stool cultures
   -          start Vancomycin/Aztreonam (day 1 [**12-14**])
   -          check lactate
   -          trend fever curve, WBC, and urine output
   -          check random cortisol
   -          EKG to assess for RHS or new RBBB c/f PE
   # Respiratory Failure:  Likely [**1-16**] to mild  COPD and flare of severe
   interstitial lung disease. No evidence of pulmonary infection on sputum
   cultures. s/p trach. Unable to wean off FiO2 yesterday on PS, required
   change of VS to PC. Family meeting today, family understands that
   patient prognosis is poor and patient is DNR with no further lines or
   pressors, but they still wish to work towards rehab and chronic vent
   weaning. Patient is quite weak and may have some neuromuscular etiology
   contributing to her respiratory failure, possible due to long ICU
   admission/deconditioning versus steroid myopathy.
   - attempt to change vent settings over to PS prior to going to rehab
   - sedation wean once stable on PS vent settings (fentanyl IV to patch,
   versed to IV ativan or valium)
   - changed solumedrol to PO prednisone 10 mg daily.
   - PT consult
   - possible neuro consult to assess for steroid myopathy
   - palliative care involved
   # NSVT: No further episodes of NSVT once electrolytes repleted.
   - continue telemetry
   - replete lytes mg > 2 k > 4 w/ daily lyes check.
   - patient is currently DNR
   # LUE edema: likely related to A-line. Has been on ppx heparin. No
   evidence of DVT on LUE U/S.
   # Hypothyroidism: continue synthroid
   # Hyperlipidemia: unable to crush lipitor, holding.
   # Osteoporosis: hx of compression fractures:  No acute issues
   # GERD: PPI
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2168-12-14**] 01:30 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: in ICU

2168-12-15 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - New infiltrate on CXR with temp spike 101.5
F - [**2168-12-14**] 08:00 AM
   and new hypotension- started Vanco and Aztreonam for VAP
   - BP low throughout day to 80's/40's. Bolused with 3L then put on 200cc
   NS /hr with BP up to 90's /40's at midnight and UOP approx 20 cc/hr
   - Confirmed pt not Auto Peeping- still on PCV with FiO2 increased from
   60% to 70%
   - Random cortisol appropriate at 38
   - EKG without signs of right heart strain
   - Lactate 1.0 at 1200 on [**2168-12-14**] from 0.6 at 0300 on [**2168-12-14**]
   - Discontinued steroids
   Patient is unable to communicate her history and review of systems.
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-14**] 08:00 PM
   Aztreonam - [**2168-12-14**] 11:00 PM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2168-12-14**] 11:45 AM
   Heparin Sodium (Prophylaxis) - [**2168-12-14**] 11:53 PM
   Flowsheet Data as of  [**2168-12-15**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 35.7
C (96.2
   HR: 99 (95 - 128) bpm
   BP: 84/44(54) {72/32(44) - 133/67(75)} mmHg
   RR: 22 (20 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  7,229 mL
                                                                  1,127 mL
   PO:
             TF:
                                                                    750 mL
                                                                    317 mL
   IVF:
                                                                  6,389 mL
                                                                    810 mL
   Blood products:
   Total out:
                                                                    545 mL
                                                                    190 mL
   Urine:
                                                                    545 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,684 mL
                                                                    937 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 37 cmH2O
   Plateau: 35 cmH2O
   SpO2: 94%
   ABG: 7.44/48/80.[**Numeric Identifier 176**]/25/6
   Ve: 14 L/min
   PaO2 / FiO2: 114
   Physical Examination
   GEN: NAD, mechanical ventilation via tracheostomy
   HEENT: AT/NC, PERRL
   NECK: No evidence of JVP elevation
   PULM: Coarse breath sounds throughout
   CARD: Tachycardic, with no M/R/G appreciated
   ABD:  BS+, soft, NT, ND
   EXT: piting edema of LE bilaterally
   NEURO:  Patient responsive to vocalization, though not interactive
   Labs / Radiology
   155 K/uL
   7.6 g/dL
   115 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.5 mEq/L
   33 mg/dL
   106 mEq/L
   135 mEq/L
   22.8 %
   7.9 K/uL
        [image002.jpg]
                            [**2168-12-12**]  04:05 AM
                            [**2168-12-12**]  04:10 AM
                            [**2168-12-12**]  06:24 PM
                            [**2168-12-13**]  03:15 AM
                            [**2168-12-13**]  06:41 AM
                            [**2168-12-13**]  03:02 PM
                            [**2168-12-13**]  05:48 PM
                            [**2168-12-14**]  03:00 AM
                            [**2168-12-14**]  12:33 PM
                             [**2168-12-15**]  04:27 AM
   WBC
   10.3
   8.6
   13.4
   7.9
   Hct
   29.0
   26.7
   26.3
   22.8
   Plt
   156
   147
   158
   155
   Cr
   0.3
   0.3
   0.3
   0.4
   0.5
   TCO2
   37
   37
   34
   36
   32
   34
   Glucose
   121
   134
   120
   146
   115
   Other labs: PT / PTT / INR:11.9/29.9/1.0, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.5 %, Band:0.0 %, Lymph:4.4 %,
   Mono:5.7 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL,
   Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   80 year-old woman with a history of COPD, who presents as transfer
   after failure to extubate. Thought to have severe ILD with difficult
   vent liberation complicated by HAP starting [**2168-12-14**].
   # Hypotension and tachycardia:
   Most likely secondary to sepsis associated with VAP (fever to 101.5,
   leukocytosis, CXR with new infiltrates at RML, tachycardia) bordering
   on severe sepsis given low U/O (<30 ccs/hr x2 hrs), increasing hypoxia
   on ABG, and acutely altered MS/unresponsiveness. Other etiologies
   include PE (less likely as had sufficient DVT ppx and no evidence of RH
   strain on EKG yesterday to indicate massive PE to explain hypotension),
   and adrenal insufficiency given her long steroid taper and appropriate
   random cortisol of 38 yesterday. Sputum culture from [**2168-12-14**] reveals
   moderate growth of GNR that as as yet unspeciated. C.diff toxin assay
   is negative.
   - Follow-up sputum culture for speciation of GNRs
   - Follow-up blood cultures
   - Fluid boluses as needed to support blood pressure or UOP
   - Continue Vancomycin/Aztreonam (day 1 [**12-14**]) for 8 day course
   - Trend fever curve, WBC, and urine output
   # Respiratory Failure:
   Has severe interstitial lung disease. Evidence of sepsis likely
   associated with VAP, likely reason why patient was progressively
   hypoxic on and is now requiring FiO2 of 70% (up from 60% earlier in day
   yesterday). Patient is quite weak and may have some LMN neuromuscular
   etiology contributing to her respiratory failure, possible due to long
   ICU admission/deconditioning versus steroid myopathy per PT and intern
   exam of LUE. Patient on short trial of pressure support ventilation
   that resulted in tachypnea, thus patient was switched back to PCV.
   - Treat sepsis as above and keep patient on PCV vent setting and
   liberate as tolerated
   - Continue current sedation.
   - Consider neuro consult to assess for steroid myopathy pending
   resolution of current sepsis treatment
   - Palliative care involved
   # Hypothyroidism:
   - Continue synthroid
   # GERD:
   - On PPI
   ICU Care
   Nutrition:
   Nutren Pulmonary Full strength 45 mL/hr
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: Heparin subcutaneous
   Stress ulcer: On PPI
   VAP:  per protocol
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: Continues to require ICU level status

2168-12-15 12:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2168-12-14**] 09:00 AM
   a-line
 BLOOD CULTURED - At [**2168-12-14**] 09:15 AM
   PICC
 URINE CULTURE - At [**2168-12-14**] 10:00 AM
 STOOL CULTURE - At [**2168-12-14**] 10:30 AM
 EKG - At [**2168-12-14**] 11:30 AM
 FEVER - 101.5
F - [**2168-12-14**] 08:00 AM
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Aztreonam - [**2168-12-15**] 07:00 AM
   Vancomycin - [**2168-12-15**] 08:30 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-12-15**] 08:30 AM
   Fentanyl - [**2168-12-15**] 09:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2168-12-15**] 12:35 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 97 (95 - 110) bpm
   BP: 124/70(82) {89/46(60) - 129/114(361)} mmHg
   RR: 18 (18 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  7,228 mL
                                                                  2,424 mL
   PO:
             90 mL
   TF:
                                                                    750 mL
                                                                    557 mL
   IVF:
                                                                  6,389 mL
                                                                  1,777 mL
   Blood products:
   Total out:
                                                                    545 mL
                                                                    350 mL
   Urine:
                                                                    545 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,683 mL
                                                                  2,074 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 37 cmH2O
   Plateau: 35 cmH2O
   SpO2: 94%
   ABG: 7.44/48/80.[**Numeric Identifier 176**]/25/6
   Ve: 10.7 L/min
   PaO2 / FiO2: 114
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.6 g/dL
   155 K/uL
   115 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.5 mEq/L
   33 mg/dL
   106 mEq/L
   135 mEq/L
   22.8 %
   7.9 K/uL
        [image002.jpg]
                            [**2168-12-12**]  04:05 AM
                            [**2168-12-12**]  04:10 AM
                            [**2168-12-12**]  06:24 PM
                            [**2168-12-13**]  03:15 AM
                            [**2168-12-13**]  06:41 AM
                            [**2168-12-13**]  03:02 PM
                            [**2168-12-13**]  05:48 PM
                            [**2168-12-14**]  03:00 AM
                            [**2168-12-14**]  12:33 PM
                             [**2168-12-15**]  04:27 AM
   WBC
   10.3
   8.6
   13.4
   7.9
   Hct
   29.0
   26.7
   26.3
   22.8
   Plt
   156
   147
   158
   155
   Cr
   0.3
   0.3
   0.3
   0.4
   0.5
   TCO2
   37
   37
   34
   36
   32
   34
   Glucose
   121
   134
   120
   146
   115
   Other labs: PT / PTT / INR:11.9/29.9/1.0, ALT / AST:[**10-31**], Alk Phos / T
   Bili:55/0.4, Differential-Neuts:89.5 %, Band:0.0 %, Lymph:4.4 %,
   Mono:5.7 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL,
   Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   RESPRIATORY FAILURE -- multifactorial; new VAP (RLL), on background of
   advanced ILD/pulmonary fibrosis.  Now with higher FiO2 requirement.
   PAIN CONTROL -- major focus of care
   Resp failure
acute on chronic
   ILD (IPF, less likely NSIP given poor response to high dose steroids,
   continuing steroid taper, s/p treatment for pna and diuresis for pulm
   edema component)
   New hypotension
   fever/leukocytosis
   pna on cxr/secretions
   COPD (without acute exac)
   Anemia (stable)
   Weakness (deconditioning, ? Steroid related)
   Pt with advanced interstitial lung ds. Continues to require full
   ventilator support. Prognosis to wean from vent is very poor. Now with
   sirs/septic presentiation with new leukocytosis/fever/hypotension from
   presumed VAP.   Agree with plan to pan cx.  Cover for
   VAP-->vanco/aztreonam.  DDX includes PE as well, though much lower
   clincial suspicion of this given fever, wbc ct, secretions and
   infiltrate. Has been on DVT prophylaxis.  Will give aggressive IVFs.
   Update family as to further decline in clinical status.  Continue mdis
   and continue current prednisone dose.  Given this new infection concern
   for adrenal insuff contributing to hypotension--will check random
   cortisol level and consider stress dose. Weakness /l arm faclid is
   another issue and --may be [**1-16**] deconditioning--steroid
   myopathy/critical care myopathy of concern.  At this time acute issues
   more pressing and pt is too unstable for CT scan. Will update family
   and readdress pending furtehr improvement. Palliative care following.
 EDUCATIONAL ACTIVITIES, INABILITY TO PARTICIPATE IN
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 .H/O HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2168-12-15**] 06:49 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-11-25**] 08:05 PM
   Arterial Line - [**2168-11-25**] 11:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: